2135-03-18 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hypotensive to low 80s, tachycardic to 100s
   - Bolused 3.5L Normal Saline
   - Transfused 1U pRBCs
   - Serial ABGs and lactates reassung (flat)
   - Troponin mildly elevated at 0.09
   - arterial line placed
   Continued to have bright red blood per ostomy. Hct remained stable but
   downtrended this AM from 29.3 --> 26.6
   Allergies:
   ? Zosyn
 neutropenia
   Last dose of Antibiotics:
   Vancomycin - [**2135-3-17**] 06:53 PM
   Cefipime - [**2135-3-17**] 06:55 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-17**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-18**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 107 (104 - 117) bpm
   BP: 86/44(60) {73/38(50) - 93/47(60)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
           Total In:
                                                                  1,420 mL
                                                                  3,448 mL
   PO:
           TF:
   IVF:
                                                                  1,420 mL
                                                                  3,226 mL
   Blood products:
   222 mL
   Total out:
                                                                    252 mL
                                                                    142 mL
   Urine:
                                                                    202 mL
                                                                    142 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,168 mL
                                                                  3,306 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (480 - 683) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: 7.41/44/76.[**Numeric Identifier 299**]/25/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 127
   Physical Examination
   Mental Status: awake, alert, responds to yes or no questions, trying to
   communicate. Appears frustrated, tired.
   CV: regular rate and rhythm, no m/r/g
   Lungs: Faint crackles at R base, decreased air movement at L base
   Abdomen: softly distended. No pain to palpation. No bloody drainage
   around colostomy
   Extremities: 1+ pitting edema in all 4 extremities.
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   79 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   52 mg/dL
   110 mEq/L
   138 mEq/L
   26.6 %
   9.5 K/uL
        [image002.jpg]
   Hct Trend:29
26.6 <-- 29.3 <--31.5 <-- 31.8
                                                                   Ca 6.5
   / Mg 1.6   / Phos 3.0
   PT 21.7 / PTT 37.1 // INR 2.0
   ALT 24 / AST 62 / LDH 121 / Alk Phos 799 <-- 1093
   Albumin 1.3
   ABGs: 1am 7.44/41/69/29
   3:25am 7.41/44/76/29
   Lactates: 1.5, 1.3
   Troponin 0.09 CKMB 2
   TSH 0.35
   Cortisol 27.5
                             [**2135-3-17**]  06:31 PM
                             [**2135-3-17**]  10:42 PM
                             [**2135-3-18**]  12:44 AM
                             [**2135-3-18**]  12:56 AM
                             [**2135-3-18**]  03:15 AM
                             [**2135-3-18**]  03:24 AM
   WBC
   7.9
   9.5
   Hct
   31.8
   31.5
   29.3
   26.6
   Plt
   349
   281
   Cr
   0.6
   0.4
   TropT
   0.09
   TCO2
   29
   29
   Glucose
   113
   79
   Other labs: PT / PTT / INR:21.7/37.1/2.0, CK / CKMB /
   Troponin-T:23/2/0.09, ALT / AST:24/62, Alk Phos / T Bili:799/1.5,
   Lactic Acid:1.3 mmol/L, Albumin:1.3 g/dL, LDH:121 IU/L, Ca++:6.5 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   MICO:
   UA: Mod leukos, 20 WBCs, trace blood + nitrates, mod bacteria, 30
   protein. pH 6.5, [**11-26**] hyaline casts.
   Imaging:
   KUB
no bowel gas
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy.
   #) Hypotension and tachycardia--felt to be intravascularly dry and
   dehydrated given presence of hyaline casts, initially elevated
   bicarbonate with mild alkalemia at 7.44 thought to be secondary to
   contraction alkalosis. Did not respond appropriately to fluid boluses
   but this was thought to be due to low albumin of 1.3 and third-spacing.
   Lower concern for hypovolemic shock due to active GI bleed as, while
   the patient continued to have some bloody output per ostomy, her
   hematocrit remained largely stable. Also of concern was sepsis, given
   multiple possible sources of infection (R arm cellulitis, abdominal/ GI
   source, positive UA, and known C. diff infection). Patient remained
   afebrile overnight, however. Finally, cardiogenic etiologies a
   possibility, including PE, heart failure, tamponade.   Repeat Hct after
   1 L PRBCs is 29 from 26.6
   Hypovolemia: Intravascularly druy and blood loss
   - Access: 3 PIVs and arterial line
   - Continue fluid resuscitation
   - Check UOP for goal 40cc/hr
   - Consider colloid transfusion to theoretically reduce burden of
   third-spacing, although may not yield clinical benefit
   - BPs stable now; will hold off on central line and pressors,
   especially since no evidence of end-organ damage
   - Cycle hematocrits q6h
   - Received Vitamin K, will give 2 units FFP this morning for INR of 2.0
   Sepsis
low clinical suspicion since lactates flat and no evidence of
   end-organ damage
   - F/u culture data: blood, urine cultures, c. diff
   - Continue antibiotics: vancomycin, cefepime, and flagyl for presumed
   c. difficile (may DC flagyl on [**3-19**])
   - F/u final KUB read
   - Consider RUQ ultrasound or CT scan given elevated alkaline
   phosphatase, hx of cholelithiasis seen on previous imaging.
   Cardiogenic
 could be due to pulmonary embolus, poor forward flow from
   CHF.  TTE was attempted this morning, however was not a good study
   based on poor visualization.  Low suspicion right now based on diffuse
   b/l edema that is not localized.  Will monitor.
   - Cnsider LENIs and upper extremity ultrasound if clinical changes
   - Consider PE CT angiogram
   Endocrine
   - Cortisol wnl, low suspicion for adrenal insufficiency
   - TSH somewhat low at 0.35. Get fT4 and T3 to determine if
   supratherapeutic levothyroxine doses are contributing to tachycardia.
   #) GI bleeding--likely lower GI source given negative lavage and known
   history of diverticular disease. [**Month (only) 8**] also consider infectious bloody
   diarrhea, although presentation is not entirely consistent with this.
    Spoke with GI who recommended EGD and scope through colostomy.
   - Start GoLytely prep
   - Protonix 40mg IV BID
   - Continue to transfuse as above for goal Hct >25.
   - If signs of continued bleeding, will obtain RBC scan (IR already
   contact[**Name (NI) **])
   - [**Name (NI) **] with surgery
   - Reverse INR as above
   #) C. diff--on flagyl treatment [**3-5**] is day 1 of 14-day course
   - [**3-18**] is last day of flagyl
   - Follow-up C. diff toxin titers
   - Monitor output from colostomy (not copious now).
   #) Right arm erythema at Picc site--no swelling of extremity
   - Follow-up blood cultures
   - If re-[**Last Name (LF) 2180**], [**First Name3 (LF) 124**] re-culture
   - Continuing vanc/cefepime
   - Consider RUE ultrasound to check for clot if edema develops
   #) Sacral decubitus ulcer--stage 3, without surrounding erythema or
   signs of infection
   - Wound care consult placed, follow-up recs
   #) Elevated alk phos--history of hepatic cysts, cholelithiasis.
   Down-trending this AM
   - F/u final KUB read
   - RUQ ultrasound
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection
   - Trache-mask trial today
   #) Hypothyroidism--TSH 0.35, somewhat low which may be contributing to
   tachycardia
   - Check fT4/ T3 as above
   - [**Month (only) 8**] need to adjust levothyroxine dose if supratherapeutic
   #) Hx of neutropenia and thrombocytopenia--s/p neupogen treatment and
   bone marrow biopsy which showed unspecified lymphoproliferation.
   Thought to be due to previous zosyn use in setting of lung abscesses
   - Continue to trend daily CBCs
   #) HTN
   - Holding home lopressor and lasix in setting of hypotension
   #) FEN
   - NPO for now; holding tube feeds
   - Replete electrolytes
   - Calcium 6.5; corrected for hypoalbuminemia is 8.66, still low.
   Consider calcium gluconate, especially since patient will be receiving
   blood which may make her more hypocalcemic.
   - Nutrition consult for low albumin (At rehab replete with fiber,
   65ml/hr, NS flushed 200ml q6h)
   #) Prophylaxis
   - Pneumoboots for now
   - SCH after bleeding controlled; previous concern for HIT given
   thrombocytopenia at previous hospitalization.
   #) Psychosocial: patient seems frustrated, does not seem to want
   further intervention but her goals of care may differ with family
   Seems depressed
   - Social Work consult
   - Psychiatry consult
   - Family meeting to discuss goals of care, code status
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo ICU

2135-03-19 07:24:00 Physician Resident Progress Note
24 Hour Events:
   [**3-17**] (overnight)
   Hypotensive; SBP low to mid 80s
   - Bolused 1500cc without appropriate response
   - Flagyl added (to vanc and cefepime) for completion of 14-day course
   of C. diff
   - Arterial line placed--SBP rose to 108
   - ABG, CBC, lactate obtained
   - KUB to evaluate for abdominal pathology
   - Cardiac enzymes added on
   - Inpatient blood cx growing GPC in clusters
   Continued to have bloody maroon-colored stool into ostomy bag. Hct
   stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-3-18**] 06:00 PM
   Cefipime - [**2135-3-18**] 06:00 PM
   Metronidazole - [**2135-3-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-18**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-19**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96.1
   HR: 105 (97 - 105) bpm
   BP: 86/46(64) {86/44(62) - 123/87(101)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  6,175 mL
                                                                    378 mL
   PO:
             TF:
   IVF:
                                                                  4,350 mL
                                                                    223 mL
   Blood products:
                                                                    815 mL
   Total out:
                                                                  2,017 mL
                                                                    175 mL
   Urine:
                                                                    517 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,158 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 416 (335 - 451) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.46/36/77.[**Numeric Identifier 253**]/25/1
   Ve: 6.7 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Gen: Trach in place, appears comfortable, denies pain, attempting to
   communicate by mouthing words
   Resp: CTA anteriorly
   Cards: rrr no m/r/g
   Abd: soft, nt/nd, brown, non-bloody appearing stool in ostomy pouch
   Ext: WWP
   Labs / Radiology
   230 K/uL
   9.1 g/dL
   71 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   44 mg/dL
   109 mEq/L
   139 mEq/L
   28.3 %
   7.4 K/uL
        [image002.jpg]
   GI EGD [**2135-3-18**]:
   Impression:
   Friability, erythema and petechiae in the stomach body and antrum
   compatible with Gastritis
   PEG tube noted in place
   Otherwise normal EGD to third part of the duodenum
   Recommendations:
   Please continue ppi
   proceed to colonoscopy
   GI Colonoscopy [**2135-3-18**]:
   Impression:
   Granularity, friability and erythema in the descending colon, splenic
   flexure, transverse colon, ascending colon and cecum (biopsy, biopsy)
   Polyps in the colon
   Colonoscopy pictures in pt's EGD file in gmed/gcare
   Otherwise normal colonoscopy to cecum
   Recommendations:
   Findings could be related to ischemic changes, ivf
   Would recommend imaging studies to evaluate mesenteric vessels
   Follow biopsy
   Follow Hct
   Follow with GI inpatient consult team
   Polyps not removed due to GIB
                             [**2135-3-18**]  12:44 AM
                             [**2135-3-18**]  12:56 AM
                             [**2135-3-18**]  03:15 AM
                             [**2135-3-18**]  03:24 AM
                             [**2135-3-18**]  07:50 AM
                             [**2135-3-18**]  09:29 AM
                             [**2135-3-18**]  01:52 PM
                             [**2135-3-18**]  08:30 PM
                             [**2135-3-19**]  02:10 AM
                             [**2135-3-19**]  02:18 AM
   WBC
   9.5
   7.4
   Hct
   29.3
   26.6
   29.7
   27.1
   27.3
   28.3
   Plt
   281
   230
   Cr
   0.4
   0.3
   TCO2
   29
   29
   28
   26
   Glucose
   79
   71
   Other labs: PT / PTT / INR:17.7/32.2/1.6, CK / CKMB /
   Troponin-T:23/2/0.09, ALT / AST:24/62, Alk Phos / T Bili:799/1.5,
   Lactic Acid:1.3 mmol/L, Albumin:1.3 g/dL, LDH:121 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy.
   #) Hypotension and tachycardia--felt to be intravascularly dry and
   dehydrated given presence of hyaline casts, initially elevated
   bicarbonate with mild alkalemia at 7.44 thought to be secondary to
   contraction alkalosis. Did not respond appropriately to fluid boluses
   but this was thought to be due to low albumin of 1.3 and third-spacing.
   Lower concern for hypovolemic shock due to active GI bleed as, while
   the patient continued to have some bloody output per ostomy, her
   hematocrit remained largely stable. Also of concern was sepsis, given
   multiple possible sources of infection (R arm cellulitis, abdominal/ GI
   source, positive UA, and known C. diff infection). Patient remained
   afebrile overnight, however. Finally, cardiogenic etiologies a
   possibility, including PE, heart failure, tamponade.   Repeat Hct after
   1 L PRBCs is 29 from 26.6
   Hypovolemia: Intravascularly druy and blood loss
   - Access: 3 PIVs and arterial line
   - Continue fluid resuscitation
   - Check UOP for goal 40cc/hr
   - Consider colloid transfusion to theoretically reduce burden of
   third-spacing, although may not yield clinical benefit
   - BPs stable now; will hold off on central line and pressors,
   especially since no evidence of end-organ damage
   - Cycle hematocrits q6h
   - Received Vitamin K, will give 2 units FFP this morning for INR of 2.0
   Sepsis
low clinical suspicion since lactates flat and no evidence of
   end-organ damage
   - F/u culture data: blood, urine cultures, c. diff
   - Continue antibiotics: vancomycin, cefepime, and flagyl for presumed
   c. difficile (may DC flagyl on [**3-19**])
   - F/u final KUB read
   - Consider RUQ ultrasound or CT scan given elevated alkaline
   phosphatase, hx of cholelithiasis seen on previous imaging.
   Cardiogenic
 could be due to pulmonary embolus, poor forward flow from
   CHF.  TTE was attempted this morning, however was not a good study
   based on poor visualization.  Low suspicion right now based on diffuse
   b/l edema that is not localized.  Will monitor.
   - Cnsider LENIs and upper extremity ultrasound if clinical changes
   - Consider PE CT angiogram
   Endocrine
   - Cortisol wnl, low suspicion for adrenal insufficiency
   - TSH somewhat low at 0.35. Get fT4 and T3 to determine if
   supratherapeutic levothyroxine doses are contributing to tachycardia.
   #) GI bleeding--likely lower GI source given negative lavage and known
   history of diverticular disease. [**Month (only) 8**] also consider infectious bloody
   diarrhea, although presentation is not entirely consistent with this.
   Spoke with GI who recommended EGD and scope through colostomy.
   - Start GoLytely prep
   - Protonix 40mg IV BID
   - Continue to transfuse as above for goal Hct >25.
   - If signs of continued bleeding, will obtain RBC scan (IR already
   contact[**Name (NI) **])
   - [**Name (NI) **] with surgery
   - Reverse INR as above
   #) C. diff--on flagyl treatment [**3-5**] is day 1 of 14-day course
   - [**3-18**] is last day of flagyl
   - Follow-up C. diff toxin titers
   - Monitor output from colostomy (not copious now).
   #) Right arm erythema at Picc site--no swelling of extremity
   - Follow-up blood cultures
   - If re-[**Last Name (LF) 2180**], [**First Name3 (LF) 124**] re-culture
   - Continuing vanc/cefepime
   - Consider RUE ultrasound to check for clot if edema develops
   #) Sacral decubitus ulcer--stage 3, without surrounding erythema or
   signs of infection
   - Wound care consult placed, follow-up recs
   #) Elevated alk phos--history of hepatic cysts, cholelithiasis.
   Down-trending this AM
   - F/u final KUB read
   - RUQ ultrasound
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection
   - Trache-mask trial today
   #) Hypothyroidism--TSH 0.35, somewhat low which may be contributing to
   tachycardia
   - Check fT4/ T3 as above
   - [**Month (only) 8**] need to adjust levothyroxine dose if supratherapeutic
   #) Hx of neutropenia and thrombocytopenia--s/p neupogen treatment and
   bone marrow biopsy which showed unspecified lymphoproliferation.
   Thought to be due to previous zosyn use in setting of lung abscesses
   - Continue to trend daily CBCs
   #) HTN
   - Holding home lopressor and lasix in setting of hypotension
   #) FEN
   - NPO for now; holding tube feeds
   - Replete electrolytes
   - Calcium 6.5; corrected for hypoalbuminemia is 8.66, still low.
   Consider calcium gluconate, especially since patient will be receiving
   blood which may make her more hypocalcemic.
   - Nutrition consult for low albumin (At rehab replete with fiber,
   65ml/hr, NS flushed 200ml q6h)
   #) Prophylaxis
   - Pneumoboots for now
   - SCH after bleeding controlled; previous concern for HIT given
   thrombocytopenia at previous hospitalization.
   #) Psychosocial: patient seems frustrated, does not seem to want
   further intervention but her goals of care may differ with family
   Seems depressed
   - Social Work consult
   - Psychiatry consult
   - Family meeting to discuss goals of care, code status
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   RIC - [**2135-3-17**] 07:05 PM
   18 Gauge - [**2135-3-17**] 07:06 PM
   Arterial Line - [**2135-3-18**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-03-20 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct stable
   - GI: EGD/Colonoscopy with friable mucosa which could be consistent
   with C.diff infection or, less likely, ischemia
   - CTA Abdomen / Pelvis *** Prelimininary ***
   Marked wall thickening of the transverse colon, hepatic flexure, and
   splenic flexure not significanlty changed since [**2135-2-5**]. New foci of
   air in the large bowel wall at the hepatic flexure and few foci of
   peritoneal air interposed between the stomach and transeverse colon
   (best seen 501a: 12 and 7) are in keeping with microperforation
   possibly due to a combination of edematous/friable bowel wall and
   recent colonoscopy.
   - Surgery: Updated on findings of marked wall thickening and potential
   microperforation, have not left official recommendations
   - IV Flagyl changed to PO
   - Given minimal suspicion for new ischemic process, tube feeding
   restarted
   - At approximately midnight, developed tachyarrythmia to 140-160;
   telemetry without obvious P-waves; given 5mg Metoprolol with
   improvement of HR to 90-120 but drop in SBP to 70s; bolused 2L and
   given an additional 2.5 mg Metoprolol --> HR 90s/BP 90s, started
   Digoxin load
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2135-3-19**] 09:01 AM
   Cefipime - [**2135-3-19**] 05:28 PM
   Vancomycin - [**2135-3-19**] 05:29 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-19**] 09:02 AM
   Metoprolol - [**2135-3-20**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-20**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 100 (94 - 148) bpm
   BP: 110/49(74) {68/44(40) - 224/220(222)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,066 mL
                                                                  1,620 mL
   PO:
             TF:
             120 mL
   IVF:
                                                                  1,761 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    375 mL
   Urine:
                                                                    620 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,446 mL
                                                                  1,245 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 499 (385 - 499) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: 7.24/54/114/24/-4
   Ve: 6.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Gen: mouthing words, denied pain
   Resp: coarse breath sounds bilaterally, anteriorly
   Cards: tachy, no m/r/g
   Abd:soft, nt/nd, +BS, no organomegaly
   Ext: wwp no c/c/e
   Labs / Radiology
   340 K/uL
   9.1 g/dL
   150 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   36 mg/dL
   111 mEq/L
   139 mEq/L
   0.0
   9.2 K/uL
        [image002.jpg]
                             [**2135-3-18**]  09:29 AM
                             [**2135-3-18**]  01:52 PM
                             [**2135-3-18**]  08:30 PM
                             [**2135-3-19**]  02:10 AM
                             [**2135-3-19**]  02:18 AM
                             [**2135-3-19**]  09:09 AM
                             [**2135-3-19**]  05:56 PM
                             [**2135-3-19**]  11:41 PM
                             [**2135-3-19**]  11:46 PM
                             [**2135-3-20**]  02:00 AM
   WBC
   7.4
   9.2
   Hct
   27.1
   27.3
   28.3
   30.9
   29.2
   28.6
   0.0
   Plt
   230
   340
   Cr
   0.3
   0.5
   TropT
   0.08
   TCO2
   28
   26
   24
   Glucose
   71
   150
   Other labs: PT / PTT / INR:17.7/32.2/1.6, CK / CKMB /
   Troponin-T:19/2/0.08, ALT / AST:24/62, Alk Phos / T Bili:799/1.5,
   Lactic Acid:1.3 mmol/L, Albumin:1.3 g/dL, LDH:121 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
                                                                [**2135-3-19**]
                                                                    11:46p
   _______________________________________________________________________
                                     pH
                                    7.24
                                    pCO2
                                     54
                                     pO2
                                     114
                                    HCO3
                                     24
                                   BaseXS
                                     -4
   Type:Art
   Lactate:1.3
                                                                [**2135-3-19**]
                                                                    02:18a
   _______________________________________________________________________
                                     pH
                                    7.46
                                    pCO2
                                     36
                                     pO2
                                     78
                                    HCO3
                                     26
                                   BaseXS
                                      1
   Type:Art; Intubated; Vent:Spontaneous;
   FiO2%:50; Rate:/19; TV:500; PEEP:5; Temp:35.6
   Micro:
   [**2135-3-17**]  BLOOD CULTURE PRELIMINARY {GRAM POSITIVE COCCUS(COCCI)};
   Anaerobic Bottle Gram Stain-FINAL INPATIENT
   [**2135-3-17**]  MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH
   AUREUS} INPATIENT
   [**2135-3-17**]  URINE URINE CULTURE-PRELIMINARY {PSEUDOMONAS AERUGINOSA}
   INPATIENT
   CTA ABD W&W/O C & RECONS
   Marked wall thickening of the transverse colon, hepatic flexure, and
   splenic
   flexure not significanlty changed since [**2135-2-5**].New foci of air in the
   large
   bowel wall at the hepatic flexure and few foci of peritoneal air
   interposed between the stomach and transeverse colon (best seen 501a:
   12 and
   7) are in keeping with microperforation possibly due to a combination
   of
   edematous/friable bowel wall and recent colonoscopy. Sigmoid resection
   and
   ostomy again seen. Atherosclerotic disease throughout the abdominal
   aorta with
   mild narrowing at the origin of the SMA. The celiac, SMA and proximal
   [**Female First Name (un) 2712**] are
   patent. The SMV and portal veins are patent. Decreased perihepatic
   ascites.
   Small amount of free fluid in the pelvis.Distribution of bowel wall
   abnormality is not isolated to one vascular territory and is more
   suggestive
   of possibly inflammatory or infectious colitis, or possibly pancolitis
   from
   low flow state. Small b/l pleural effusions. Discussed with Dr [**Last Name (STitle) 11964**]
   on
   [**2135-3-19**].
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy.
   #) Colitis/GIB: EGD showing gastritis and friable mucosa but no source
   of significant bleeding on esophagus, stomach or duodenum. Colonoscopy
   with ulceration and erythema consistent with colitis either of
   infectious or ischemic etiology. Likely lower GI given history,
   negative lavage, no clear source of bleeding on EGD and e/o colitis on
   colonoscopy. CTA showing diffuse colitis with patent vessels but air
   bubbles likely from colonoscopy but unable to r/u ischemia.
    - GI recs appreciated
    - Starting PO vancomycin on top of ongoing IV flagyl
    - observe carefully for signs of peritonitis
   - Protonix 40mg IV BID
   - Continue to transfuse as above for goal Hct >25.
   - Follow-up with surgery
   - Reverse INR as above
   #) Hypotension and tachycardia
resolving. Initially felt to be
   intravascularly dry and dehydrated given presence of hyaline casts,
   initially elevated bicarbonate with mild alkalemia at 7.44 thought to
   be secondary to contraction alkalosis. Did not respond appropriately to
   fluid boluses but this was thought to be due to low albumin of 1.3 and
   third-spacing. Some concern for hypovolemic shock due to active GI
   bleed. Also of concern was sepsis, given multiple possible sources of
   infection (R arm cellulitis, abdominal/ GI source, positive UA, and
   known C. diff infection). Patient remained afebrile overnight, however.
   Finally, cardiogenic etiologies a possibility, including PE, heart
   failure, tamponade.
   - Access: 2 PIVs and arterial line
   - Continue fluid resuscitation as needed
   - Follow UOP for goal 40cc/hr
   - Follow hematocrits [**Hospital1 **]
   - F/u culture data: blood, urine cultures, c. diff  - GPC in clusters
   in 1 anaerobic bottle, Urine Cx + for pseudomonas
   - Continue antibiotics: vancomycin, cefepime, and flagyl for presumed
   c. difficile (original 14 day flagyl course to end on [**3-19**])
   #Afib w/ RVR. Pt with new AF w/RBR overnight, appears to have resolved
   after diltiazem (5 + 2.5) and digoxin loading.
    - continue digoxin
    - continue to monitor
   #) C. diff--on flagyl treatment [**3-5**] is day 1 of 14-day course
 after
   colonoscopy there was possibility of C. Diff based on findings
   - Pt  had initially been on IV flagyl, recently switched to PO flagyl
   - Had been on IV vanco , PO vanco added yesterday for double coverage
   #)  UTI:  Urine culture growing pseudomonas
   - continue Cefepime
   - follow up culture for sensitivities
   #) Right arm erythema at PICC site--no swelling of extremity
   - Follow-up blood cultures
   - If re-[**Last Name (LF) 2180**], [**First Name3 (LF) 124**] re-culture
   - Continuing vanc/cefepime
   - Consider RUE ultrasound to check for clot if edema develops
   #) Sacral decubitus ulcer--stage 3, without surrounding erythema or
   signs of infection
   - Wound care consult placed, follow-up recs
   #) Elevated alk phos--history of hepatic cysts, cholelithiasis.
   Down-trending this AM
   - F/u final KUB read
   - RUQ ultrasound
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection.  Doing well on trach mask trial
   - Continue trach-mask trial today
   #) Hypothyroidism--TSH 0.35, somewhat low which may be contributing to
   tachycardia
   - will continue to monitor
   - Can start 200 PO levothyroxine
   #) Hx of neutropenia and thrombocytopenia--s/p neupogen treatment and
   bone marrow biopsy which showed unspecified lymphoproliferation.
   Thought to be due to previous zosyn use in setting of lung abscesses
   - Continue to trend daily CBCs
   #) HTN
   - Holding home lopressor and lasix in setting of hypotension
   #) FEN
   - NPO for now; holding tube feeds
   - Replete electrolytes
   - Calcium 6.5; corrected for hypoalbuminemia is 8.66, still low.
   Consider calcium gluconate, especially since patient will be receiving
   blood which may make her more hypocalcemic.
   - Nutrition consult for low albumin (At rehab replete with fiber,
   65ml/hr, NS flushed 200ml q6h)
   #) Prophylaxis
   - Pneumoboots for now
   - SCH after bleeding controlled; previous concern for HIT given
   thrombocytopenia at previous hospitalization.
   #) Psychosocial: patient seems frustrated, does not seem to want
   further intervention but her goals of care may differ with family
   Seems depressed
   - Social Work consult
   - Psychiatry consult
   - Family meeting to discuss goals of care, code status
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2135-3-20**] 01:42 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   18 Gauge - [**2135-3-20**] 05:10 AM
   20 Gauge - [**2135-3-20**] 05:11 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-03-21 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Nearly lost access but had small peripheral IV on right upper arm
   placed which she has now lost as of this morning. Otherwise uneventful
   night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2135-3-19**] 09:01 AM
   Cefipime - [**2135-3-20**] 05:23 PM
   Vancomycin - [**2135-3-20**] 05:24 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-21**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 103 (90 - 104) bpm
   BP: 105/53(71) {79/38(50) - 123/65(87)} mmHg (SBP 79 at 4pm yesterday;
   otherwise 88-110)
   RR: 16 (11 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                  3,637 mL
                                                                    308 mL
   PO:
                  TF:
                                                                    727 mL
                                                                    268 mL
   IVF:
                                                                  2,750 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    715 mL
   Urine:
                                                                  1,185 mL
                                                                    175 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  1,842 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 449 (344 - 539) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.27/53/63/24/-2
   Ve: 7.6 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General: Frustrated
   CV: RRR, no m/r/g
   Lungs: Decreased breath sounds at left base. Bibasilar crackles
   bilterally
   Abdomen: Soft, nontender, mildly distended. Bowel sounds present.
   Ostomy intact with greenish-brown drainage
   Extremities: [**1-8**]+ pitting edema bilaterally
   Labs / Radiology
   257 K/uL
   9.9 g/dL
   175 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.5 mEq/L
   30 mg/dL
   114 mEq/L
   140 mEq/L
   31.4 %
   8.8 K/uL
        [image002.jpg]
   Vanc level: 23.1                                                 Ca
   7.2, Mg 2.1, Phos 2.7
   Dig level 0.8                                                       PT
   1.4, PTT 32.3, INR 1.4
                             [**2135-3-19**]  09:09 AM
                             [**2135-3-19**]  05:56 PM
                             [**2135-3-19**]  11:41 PM
                             [**2135-3-19**]  11:46 PM
                             [**2135-3-20**]  02:00 AM
                             [**2135-3-20**]  07:23 AM
                             [**2135-3-20**]  11:28 AM
                             [**2135-3-20**]  02:00 PM
                             [**2135-3-20**]  05:22 PM
                             [**2135-3-21**]  04:17 AM
   WBC
   9.2
   8.8
   Hct
   30.9
   29.2
   28.6
   0.0
   30.2
   31.6
   31.4
   Plt
   340
   257
   Cr
   0.5
   0.4
   0.4
   TropT
   0.08
   0.08
   TCO2
   24
   25
   Glucose
   150
   116
   148
   175
   Other labs: PT / PTT / INR:16.3/32.3/1.4, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:139 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Micro:
   MRSA screen +
   C. diff from [**3-19**]
negative
   C. diff from [**3-20**]
pending
   Urine cultures: + pseudomonas sensitive to cefepime, ceftazidime,
   meropenem, zosyn, amikacin; resistant to cipro, gent, tobra
   Blood cultures
pending.
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy.
   #) Colitis/GIB: Likely c diff colitis given history. EGD showing
   gastritis and friable mucosa but no source of significant bleeding on
   esophagus, stomach or duodenum. Colonoscopy with ulceration and
   erythema consistent with colitis either of infectious or ischemic
   etiology. Likely lower GI given history, negative lavage, no clear
   source of bleeding on EGD and e/o colitis on colonoscopy. CTA showing
   diffuse colitis with patent vessels but air bubbles likely from
   colonoscopy but unable to r/u ischemia.
   - On PO vanc and flagyl for treatment of presumed C. diff colitis; plan
   for 14 day course, and discuss with ID/GI
   - t/w GI re: taper dose of antibiotics given likely recurrent c diff
   - Vanc level 23; adjust dosing
   - Observe carefully for signs of colitis
   - Protonix 40mg IV BID
   - Surgery: recommends stool culture, O&P.
   - F/u with surgery
   - INR 1.4; if continued signs of bleeding will consider more vitamin K
   or FFP (s/p 2 U FFP)
   - Continue to transfuse as above for goal Hct >25.
   - Continue to follow Hct [**Hospital1 **]
   - Access: nearly lost access yesterday; needs PICC
   #) C. diff--on flagyl treatment [**3-5**] is day 1 of 14-day course
 after
   colonoscopy there was possibility of C. Diff based on findings
   - Pt  had initially been on IV flagyl, recently switched to PO flagyl
   - Had been on IV vanco , PO vanco added for double coverage and needs
   dose adjustment given elevated vancomycin level
   #) Afib w/ [**Month/Year (2) 1978**]. Pt with new AF w/[**Month/Year (2) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.8. HR now at
   baseline.
   - continue to monitor
   - reduce levothyroxine dose and have her f/u as outpatient
   - [**Month (only) 8**] consider resuming home lopressor dose if BP tolerates (6.25mg
   [**Hospital1 **])
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for [**10-20**] day course given complicated UTI
   #) Right arm erythema--no swelling of extremity
   - Follow-up blood cultures
   - If re-[**Last Name (LF) 2180**], [**First Name3 (LF) 124**] re-culture
   - On IV vanc for coverage, dosing to levels
   - Consider RUE ultrasound to check for clot if edema develops
   #) Concern for Depression
    - will c/s psych today
   #) Concern for Pneumothorax: radiographic evidence, and unequal breath
   sounds noted on exam
    - will monitor for now
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - F/u wound care recs
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending this AM
   - Continue to monitor for signs of cholecystitis; stable now.
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection.  Doing well on trach mask trial
   - Continue trach-mask trial today
   #) Hypothyroidism--TSH 0.35
   - Reduce levothyroxine given new AF
   - will continue to monitor
   #) HTN-Home lopressor and lasix in setting of recent hypotension
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] consider re-starting home dose if
   BP permits.
   #) FEN
   - Tube feeds started; per nutrition, replete with fiber @15ml/hr to
   increase 1ml q4hr to goal of 65ml/hr; 50ml flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   - SCH after bleeding controlled; previous concern for HIT given
   thrombocytopenia at previous hospitalization.
   #) Psychosocial: patient seems frustrated, does not seem to want
   further intervention but her goals of care may differ with family
   Seems depressed
   - Psychiatry consult today
   - Family meeting to discuss goals of care, code status
   #) Access:
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo ICU

2135-03-21 10:06:00 Physician Attending Progress Note
Chief Complaint: GI Bleed/Blood loss anemia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2135-3-20**] 03:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2135-3-19**] 09:01 AM
   Cefipime - [**2135-3-20**] 05:23 PM
   Vancomycin - [**2135-3-20**] 05:24 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: trach mask
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-21**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.3
C (95.5
   HR: 102 (90 - 104) bpm
   BP: 113/54(76) {79/38(50) - 123/65(87)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                  3,637 mL
                                                                    523 mL
   PO:
                  TF:
                                                                    727 mL
                                                                    393 mL
   IVF:
                                                                  2,750 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    795 mL
   Urine:
                                                                  1,185 mL
                                                                    255 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  1,842 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 449) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 0 cmH2O
   SpO2: 95%
   ABG: 7.27/53/63/24/-2
   Ve: 7.6 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Diminished: on L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   257 K/uL
   175 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.5 mEq/L
   30 mg/dL
   114 mEq/L
   140 mEq/L
   31.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2135-3-19**]  09:09 AM
                             [**2135-3-19**]  05:56 PM
                             [**2135-3-19**]  11:41 PM
                             [**2135-3-19**]  11:46 PM
                             [**2135-3-20**]  02:00 AM
                             [**2135-3-20**]  07:23 AM
                             [**2135-3-20**]  11:28 AM
                             [**2135-3-20**]  02:00 PM
                             [**2135-3-20**]  05:22 PM
                             [**2135-3-21**]  04:17 AM
   WBC
   9.2
   8.8
   Hct
   30.9
   29.2
   28.6
   0.0
   30.2
   31.6
   31.4
   Plt
   340
   257
   Cr
   0.5
   0.4
   0.4
   TropT
   0.08
   0.08
   TCO2
   24
   25
   Glucose
   150
   116
   148
   175
   Other labs: PT / PTT / INR:16.3/32.3/1.4, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:139 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.
   GI bleed. Resolved. cont protonix.  INR normalized
   Pancolitis: cont po vanco, flagyl
   UTI: cont cefepime
   resp failure: TM trials today
   Afib: lowering levothyroxime course
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2135-3-21**] 01:28 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   18 Gauge - [**2135-3-20**] 06:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2135-03-22 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Picc line placed
   - Small area of potential dehiscence at site of colostomy, near
   surgical scar.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2135-3-19**] 09:01 AM
   Cefipime - [**2135-3-21**] 06:00 PM
   Vancomycin - [**2135-3-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-21**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-22**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 106 (92 - 107) bpm
   BP: 85/51(64) {78/45(58) - 118/63(83)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,801 mL
                                                                    519 mL
   PO:
             TF:
                                                                  1,031 mL
                                                                    363 mL
   IVF:
                                                                  1,460 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    245 mL
   Urine:
                                                                    880 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 533 (0 - 533) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.36/41/158/23/-1
   Ve: 8.3 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General: resting comfortably
   CV: RRR, no m/r/g
   Lungs: decreased breath sounds on L, crackles at L lung base. R lung
   CTAB anteriorly
   Abdomen: Softly distended. Hypoactive bowel sounds. Dressing around
   ostomy clean and dry, ostomy draining brownish-green stool, no obvious
   areas of wound dehiscence but dressing covered part of wound.
   Extremities: right upper extremity erythema improved. [**2-9**]+ wet, pitting
   edema in all four extremities.
   Labs / Radiology
   207 K/uL
   9.8 g/dL
   122 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.0 mEq/L
   27 mg/dL
   115 mEq/L
   140 mEq/L
   32.4 %
   7.3 K/uL
        [image002.jpg]
   Vancomycin 23.
                             [**2135-3-20**]  02:00 AM
                             [**2135-3-20**]  07:23 AM
                             [**2135-3-20**]  11:28 AM
                             [**2135-3-20**]  02:00 PM
                             [**2135-3-20**]  05:22 PM
                             [**2135-3-21**]  04:17 AM
                             [**2135-3-21**]  02:11 PM
                             [**2135-3-21**]  03:51 PM
                             [**2135-3-22**]  05:41 AM
                             [**2135-3-22**]  05:46 AM
   WBC
   8.8
   7.3
   Hct
   0.0
   30.2
   31.6
   31.4
   31
   32.4
   Plt
   257
   207
   Cr
   0.4
   0.4
   TropT
   0.08
   TCO2
   25
   25
   24
   24
   Glucose
   116
   148
   175
   122
   Other labs: PT / PTT / INR:17.0/33.4/1.5, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:139 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Microbiology
   - C. diff negative x3
   - Stool Cultures, O&P
pending
   - Blood cultures from [**3-17**], [**3-18**], and [**3-19**] all pending
   - Urine cultures: pseudomonas sensitive to cefepime; resistant to cipro
   - MRSA screen positive
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago.
   - On PO vanc and flagyl for treatment of presumed C. diff colitis; plan
   for 14 day course, discuss with GI whether they have recommendations,
   if any, for tapered or pulsed antibiotic course given negative toxin
   x3.
   - F/u stool culture, O&P
   - F/u tissue biopsy/pathology results.
   - Protonix 40mg IV BID
   - Surgery has signed off
   - Follow Hct QD; no signs of active bleeding and Hct has remained
   stable
   - If rebleeds, would check INR
   #) Potential wound dehiscence--around ostomy.
   - F/u with surgery
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures.
   - Receiving IV vancomycin and cefepime. 312 is day 1 of vancomycin and
   cefepime
   - Vancomycin level today elevated at 23. Am dose of IV vancomycin held
   in setting of elevated level, PM dose administered last night at 750mg
   IV.
   - Hold IV vancomycin today.
   - If blood cultures continue to be negative and site around former Picc
   continues to improve clinically, may consider d/c
ing IV vancomycin
   today.
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for 14 day course given complicated UTI. [**3-18**] is
   Day 1 of cefepime.
   #) Afib w/ [**Month/Year (2) 1978**]. Pt with new AF w/[**Month/Year (2) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline.
   - Loaded with digoxin over weekend but it was not continued.
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - [**Month (only) 8**] consider resuming home lopressor dose if BP tolerates (6.25mg
   [**Hospital1 **]) later in day although at present BP remains low
   #) Concern for Depression--psyche consulted and found patient difficult
   to assess given baseline poor mental status.
   - Consider repeat head imaging and EEG
   - Will call psyche when family present.
   #) Concern for Pneumothorax: radiographic evidence, and unequal breath
   sounds noted on exam. Patient has known history of left-sided
   pneumothorax from subclavian line placement in [**Month (only) **]; may be chronic. No
   radiographic evidence of progression.
    - will monitor for now
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending this AM
   - Continue to monitor for signs of cholecystitis; stable now.
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection.  Doing well on trach mask trial
   - Continue trach-mask trial today
   #) Hypothyroidism--TSH 0.35
   - Reduce levothyroxine given new AF
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix in setting of recent hypotension
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] consider re-starting home dose if
   BP permits.
   #) FEN
   - Tube feeds started; per nutrition, replete with fiber @15ml/hr to
   increase 1ml q4hr to goal of 65ml/hr; 50ml flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   - SCH after bleeding controlled; previous concern for HIT given
   thrombocytopenia at previous hospitalization.
   #) Access: Picc, 2 PIVs, arterial line
   - D/c Arterial line prior to discharge
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo ICU to rehab potentially today.
   - F/u with case management

2135-03-22 10:56:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Back on trach mask this AM
   24 Hour Events:
 PICC LINE - START [**2135-3-21**] 10:45 AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-21**] 06:00 PM
   Vancomycin - [**2135-3-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-21**] 08:30 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: trach mask
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-22**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96
   HR: 97 (93 - 109) bpm
   BP: 119/58(81) {78/45(58) - 119/63(83)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,801 mL
                                                                    893 mL
   PO:
             TF:
                                                                  1,031 mL
                                                                    616 mL
   IVF:
                                                                  1,460 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    310 mL
   Urine:
                                                                    880 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    583 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 533 (441 - 533) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.36/41/158/23/-1
   Ve: 8.3 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   207 K/uL
   122 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.0 mEq/L
   27 mg/dL
   115 mEq/L
   140 mEq/L
   32.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2135-3-20**]  02:00 AM
                             [**2135-3-20**]  07:23 AM
                             [**2135-3-20**]  11:28 AM
                             [**2135-3-20**]  02:00 PM
                             [**2135-3-20**]  05:22 PM
                             [**2135-3-21**]  04:17 AM
                             [**2135-3-21**]  02:11 PM
                             [**2135-3-21**]  03:51 PM
                             [**2135-3-22**]  05:41 AM
                             [**2135-3-22**]  05:46 AM
   WBC
   8.8
   7.3
   Hct
   0.0
   30.2
   31.6
   31.4
   31
   32.4
   Plt
   257
   207
   Cr
   0.4
   0.4
   0.4
   TropT
   0.08
   TCO2
   25
   25
   24
   24
   Glucose
   116
   148
   175
   122
   Other labs: PT / PTT / INR:17.0/33.4/1.5, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:139 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.
   GI bleed. Resolved. cont protonix.  INR normalized
   Pancolitis: cont po vanco, flagyl
   UTI: cont cefepime x total 14 course  ([**6-20**])
   resp failure: TM'd for 6 hrs yesterday, will do another tonight
   Afib: rate controlled at the moment on metoprolol
   Dispo planning for return to rehab
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-22**] 12:00 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2135-03-23 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   BPs drifted down yesterday PM to 80s systolic. Increased free water
   flushes from 30q6 --> 150q6, bolused 500ml NS x2, and decreased
   lopressor dose from 12.5 [**Hospital1 **] to 6.25 [**Hospital1 **] with improvement in BP.
   0900: Pt. with desat to 80, BPs 80s-90s.  Initially, PEEP was increased
   to 8, but decided based on chronic PTX to decrease PEEP and increase
   FiO2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-3-21**] 10:00 PM
   Cefipime - [**2135-3-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-23**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96.1
   HR: 104 (96 - 109) bpm
   BP: 91/43(60) {77/41(58) - 121/59(83)} mmHg
   RR: 16 (14 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,416 mL
                                                                    681 mL
   PO:
             TF:
                                                                  1,481 mL
                                                                    443 mL
   IVF:
                                                                  1,300 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    195 mL
   Urine:
                                                                    895 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,321 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 374 (374 - 447) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 6.9 L/min
   Physical Examination
   Gen: Awake
   CV: RRR, no m/r/g
   Lungs: Decreased air movement on L compared to R anteriorly
   Abd: s/nt/nd +BS. Ostomy draining brown stool, no blood. Area of
   potential wound dehiscence of surgical scar unchanged. Wound clean and
   dry.
   Ext: 3+ pitting edema
   Labs / Radiology
   193 K/uL
   9.4 g/dL
   137 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.0 mEq/L
   27 mg/dL
   114 mEq/L
   139 mEq/L
   31.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2135-3-20**]  07:23 AM
                             [**2135-3-20**]  11:28 AM
                             [**2135-3-20**]  02:00 PM
                             [**2135-3-20**]  05:22 PM
                             [**2135-3-21**]  04:17 AM
                             [**2135-3-21**]  02:11 PM
                             [**2135-3-21**]  03:51 PM
                             [**2135-3-22**]  05:41 AM
                             [**2135-3-22**]  05:46 AM
                             [**2135-3-23**]  04:46 AM
   WBC
   8.8
   7.3
   9.0
   Hct
   30.2
   31.6
   31.4
   31
   32.4
   31.9
   Plt
   257
   207
   193
   Cr
   0.4
   0.4
   0.4
   0.4
   TropT
   0.08
   TCO2
   25
   25
   24
   24
   Glucose
   116
   148
   175
   122
   137
   Other labs: PT / PTT / INR:17.8/35.2/1.6, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:139 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Micro
   C. diff neg x3
   Stool cultures, O&P pending
   Urine Cx: pseudomonas
   Blood
    [**3-17**]
coag staphaureus ([**1-9**])
    3/12
    [**3-19**]
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #)  Respiratory Distress:  Concern for worsening PTX, possible
   pulmonary edema or worsening consolidation.  Lung exam does not sound
   rhonchorus, no crackles.
   - stat CXR
   - manage based on CXR appearance, if acutely decompensates would needle
   decompress or place chest tube
   #) Hypotension/tachycardia--at baseline, pt's HR is in high 90s and BP
   in SBP in 90s. Improved with increased free-water flushes with feeds,
   500ml NS boluses x2, and decreasing lopressor dose from 12.5 [**Hospital1 **] -->
   6.25 [**Hospital1 **]. which is the paitent's home dose.
   - Continue to monitor BP
   - If BP normalizes and Na trends down, will decrease free water flushes
   later today.
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago.
   - On PO vanc and flagyl for treatment of presumed C. diff colitis; plan
   for 14 day course after cefepime; abx to end on [**4-13**].
   - F/u stool culture, O&P
   - F/u tissue biopsy/pathology results.
   - Protonix 40mg IV BID
   - Follow Hct QD; no signs of active bleeding and Hct has remained
   stable
   - If rebleeds, would consider vitamin K injection as INR slightly
   elevated at 1.6.
   - Surgery has signed off, left recs re: area of suture removal around
   surgical scar --> dry dressing QD.
   - per pharmacy will change flagyl from PO to IV d/t unknown effective
   absorption via GI tract
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for 14 day course given complicated UTI. [**3-17**] is
   Day 1 of cefepime. Today is Day 7 of 14. (abx to end [**3-30**])
   #) Afib w/ [**Month/Year (2) 1978**]. Pt with new AF w/[**Month/Year (2) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline. Loaded with digoxin over weekend but it was not continued.
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - Lopressor dose reverted to 6.25 [**Hospital1 **] from increase yesterday due to
   concerns with BP.
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures. Vancomycin
   level today elevated at 23. Am dose of IV vancomycin held in setting of
   elevated level, PM dose administered last night at 750mg IV.
   - Improved, s/p 6 days of IV vanc which was d/c'ed yesterday. Blood
   cultures since [**3-18**] have been negative. On cefepime for pseudamonas
   UTI.
   #) Concern for Pneumothorax: radiographic evidence, and unequal breath
   sounds noted on exam. Patient has known history of left-sided
   pneumothorax from subclavian line placement in [**Month (only) **]; may be chronic. No
   radiographic evidence of progression.
    - Discussed with IP, stated difficult to evaluate on CXR, would need
   chest CT for further evaluation and this will be deferred.
    - will continue to monitor
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection.  Doing well on trach mask trial.
   - Continue trach-mask trial today
   #) Concern for Depression--psyche consulted and found patient difficult
   to assess given baseline poor mental status.
   - Will call psyche when family present.
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending this AM
   - Continue to monitor for signs of cholecystitis; stable now.
   #) Hypothyroidism--TSH 0.35
   - Reduce levothyroxine given new AF
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix in setting of recent hypotension
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] consider re-starting home dose if
   BP permits.
   - increasing lopressor dose as above
   #) FEN
   - Tube feeds started; per nutrition, replete with fiber @15ml/hr to
   increase 1ml q4hr to goal of 65ml/hr; 50ml flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
 replete phos, check iCal
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   #) Access: Picc, arterial line
   - D/c Arterial line prior to discharge
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo: accepted to [**Hospital1 1298**]. Touch base re: case management whether bed
   is free.

2135-03-23 09:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Desatted this AM after a turn.  TVs down to high 200s-300 on pSV 5/5.
   O2 sats 92% on 0.5 FIO2 from 100% on 0.4 FIO2.
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-3-21**] 10:00 PM
   Cefipime - [**2135-3-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-22**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-23**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 105 (96 - 107) bpm
   BP: 89/43(61) {77/41(58) - 121/59(83)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,417 mL
                                                                    931 mL
   PO:
             TF:
                                                                  1,482 mL
                                                                    581 mL
   IVF:
                                                                  1,300 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    245 mL
   Urine:
                                                                    895 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,322 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 374 (374 - 447) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   193 K/uL
   137 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.0 mEq/L
   27 mg/dL
   114 mEq/L
   139 mEq/L
   31.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2135-3-20**]  07:23 AM
                             [**2135-3-20**]  11:28 AM
                             [**2135-3-20**]  02:00 PM
                             [**2135-3-20**]  05:22 PM
                             [**2135-3-21**]  04:17 AM
                             [**2135-3-21**]  02:11 PM
                             [**2135-3-21**]  03:51 PM
                             [**2135-3-22**]  05:41 AM
                             [**2135-3-22**]  05:46 AM
                             [**2135-3-23**]  04:46 AM
   WBC
   8.8
   7.3
   9.0
   Hct
   30.2
   31.6
   31.4
   31
   32.4
   31.9
   Plt
   257
   207
   193
   Cr
   0.4
   0.4
   0.4
   0.4
   TropT
   0.08
   TCO2
   25
   25
   24
   24
   Glucose
   116
   148
   175
   122
   137
   Other labs: PT / PTT / INR:17.8/35.2/1.6, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:139 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.
   resp failure: Tolerated Trach mask dueing the day yesterday, but now
   more hypoxemic with lower TVs.  There has been some concern of small
   hydropneumothorax on L but this has been stable --> will reshoot CXR to
   see if this has worsened and to investigate for alternate causes of
   hypoxemia.  Will ask IP/thoracis to see if pneum is larger
   hypotension: SBPs in 90s, HR in 100s --> will make sure she is not in
   pulmonary edema prior to bolusing fluid.
   GI bleed. Resolved. cont protonix.  INR normalized
   Pancolitis: cont po vanco, flagyl x 2 wks post completion of cefepime
   course
   UTI: cont cefepime x total 14 course  ([**6-20**])
   Afib: rate higher with decrease in metoprolol in setting of borderline
   BPs
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-23**] 07:54 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2135-03-24 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2135-3-23**]:
   On pressure support all day, [**5-11**]. Talked to IP about her CXR and CTA
   w/PTX, they felt lung was likely entrapped and not going to be
   expandable so probably no intervention at this time.
   TO DO:
   -Thurs: get scan from [**Hospital3 **], call [**Hospital1 **] ([**First Name8 (NamePattern2) 12043**] [**Last Name (NamePattern1) **], on floor 2CS,
   hx of lung scans, etc.)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-3-23**] 10:00 AM
   Cefipime - [**2135-3-23**] 05:37 PM
   Metronidazole - [**2135-3-24**] 12:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-23**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-24**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 102 (99 - 109) bpm
   BP: 85/47(62) {85/42(57) - 123/57(82)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,412 mL
                                                                    802 mL
   PO:
             TF:
                                                                  1,462 mL
                                                                    461 mL
   IVF:
                                                                    950 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    200 mL
   Urine:
                                                                    755 mL
                                                                    200 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,457 mL
                                                                    602 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (330 - 403) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 97
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.31/44/56/22/-4
   Ve: 6.1 L/min
   PaO2 / FiO2: 93
   Physical Examination
   Gen:
   Pulm:
   CV:
   Abd:
   Peripheral Vascular:
   Skin:
   Neurologic:
   Labs / Radiology
   197 K/uL
   10.0 g/dL
   146 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.1 mEq/L
   29 mg/dL
   112 mEq/L
   136 mEq/L
   33.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2135-3-21**]  02:11 PM
                             [**2135-3-21**]  03:51 PM
                             [**2135-3-22**]  05:41 AM
                             [**2135-3-22**]  05:46 AM
                             [**2135-3-23**]  04:46 AM
                             [**2135-3-23**]  09:14 AM
                             [**2135-3-23**]  09:26 AM
                             [**2135-3-24**]  03:06 AM
                             [**2135-3-24**]  03:07 AM
                             [**2135-3-24**]  06:03 AM
   WBC
   7.3
   9.0
   9.3
   8.9
   Hct
   31
   32.4
   31.9
   34.2
   33.6
   Plt
   [**Telephone/Fax (3) 12044**]97
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   24
   24
   25
   25
   23
   Glucose
   122
   137
   155
   146
   Other labs: PT / PTT / INR:18.2/35.5/1.6, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:139 IU/L, Ca++:6.7
   mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #)  Respiratory Distress:  Concern for worsening PTX, possible
   pulmonary edema or worsening consolidation.  Lung exam does not sound
   rhonchorus, no crackles.
   - stat CXR
   - manage based on CXR appearance, if acutely decompensates would needle
   decompress or place chest tube
   #) Hypotension/tachycardia--at baseline, pt's HR is in high 90s and BP
   in SBP in 90s. Improved with increased free-water flushes with feeds,
   500ml NS boluses x2, and decreasing lopressor dose from 12.5 [**Hospital1 **] -->
   6.25 [**Hospital1 **]. which is the paitent's home dose.
   - Continue to monitor BP
   - If BP normalizes and Na trends down, will decrease free water flushes
   later today.
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago.
   - On PO vanc and flagyl for treatment of presumed C. diff colitis; plan
   for 14 day course after cefepime; abx to end on [**4-13**].
   - F/u stool culture, O&P
   - F/u tissue biopsy/pathology results.
   - Protonix 40mg IV BID
   - Follow Hct QD; no signs of active bleeding and Hct has remained
   stable
   - If rebleeds, would consider vitamin K injection as INR slightly
   elevated at 1.6.
   - Surgery has signed off, left recs re: area of suture removal around
   surgical scar --> dry dressing QD.
   - per pharmacy will change flagyl from PO to IV d/t unknown effective
   absorption via GI tract
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for 14 day course given complicated UTI. [**3-17**] is
   Day 1 of cefepime. Today is Day 7 of 14. (abx to end [**3-30**])
   #) Afib w/ [**Month/Year (2) 1978**]. Pt with new AF w/[**Month/Year (2) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline. Loaded with digoxin over weekend but it was not continued.
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - Lopressor dose reverted to 6.25 [**Hospital1 **] from increase yesterday due to
   concerns with BP.
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures. Vancomycin
   level today elevated at 23. Am dose of IV vancomycin held in setting of
   elevated level, PM dose administered last night at 750mg IV.
   - Improved, s/p 6 days of IV vanc which was d/c'ed yesterday. Blood
   cultures since [**3-18**] have been negative. On cefepime for pseudamonas
   UTI.
   #) Concern for Pneumothorax: radiographic evidence, and unequal breath
   sounds noted on exam. Patient has known history of left-sided
   pneumothorax from subclavian line placement in [**Month (only) **]; may be chronic. No
   radiographic evidence of progression.
    - Discussed with IP, stated difficult to evaluate on CXR, would need
   chest CT for further evaluation and this will be deferred.
    - will continue to monitor
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection.  Doing well on trach mask trial.
   - Continue trach-mask trial today
   #) Concern for Depression--psyche consulted and found patient difficult
   to assess given baseline poor mental status.
   - Will call psyche when family present.
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending this AM
   - Continue to monitor for signs of cholecystitis; stable now.
   #) Hypothyroidism--TSH 0.35
   - Reduce levothyroxine given new AF
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix in setting of recent hypotension
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] consider re-starting home dose if
   BP permits.
   - increasing lopressor dose as above
   #) FEN
   - Tube feeds started; per nutrition, replete with fiber @15ml/hr to
   increase 1ml q4hr to goal of 65ml/hr; 50ml flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
 replete phos, check iCal
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   #) Access: Picc, arterial line
   - D/c Arterial line prior to discharge
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo: accepted to [**Hospital1 1298**]. Touch base re: case management whether bed
   is free.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-24**] 12:48 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   20 Gauge - [**2135-3-23**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-03-24 10:32:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   FIO2 up to 0.6 this AM
   Some scant bloody output from ostomy this AM
   24 Hour Events:
   CT scan yesterday showed L lung to be almost entirely collapsed with
   hyperinflated L apex.  She also has an sizeable effusion that appears
   to be somewhat organized.  There is also a new RUL infiltrate
   History obtained from Medical records, icu team
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-3-23**] 10:00 AM
   Cefipime - [**2135-3-23**] 05:37 PM
   Metronidazole - [**2135-3-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-23**] 08:30 PM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-24**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 98 (98 - 107) bpm
   BP: 97/48(67) {85/42(57) - 123/57(82)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,412 mL
                                                                  1,170 mL
   PO:
             TF:
                                                                  1,462 mL
                                                                    667 mL
   IVF:
                                                                    950 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    260 mL
   Urine:
                                                                    755 mL
                                                                    260 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,457 mL
                                                                    910 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (330 - 403) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 97
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.29/49/64/22/-3
   Ve: 6.3 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered), more breath sounds on L today
   Abdominal: Soft, Non-tender, Obese, purulent drainage from area of
   dehisence periostomy
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   197 K/uL
   146 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.1 mEq/L
   29 mg/dL
   112 mEq/L
   136 mEq/L
   33.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2135-3-21**]  03:51 PM
                             [**2135-3-22**]  05:41 AM
                             [**2135-3-22**]  05:46 AM
                             [**2135-3-23**]  04:46 AM
                             [**2135-3-23**]  09:14 AM
                             [**2135-3-23**]  09:26 AM
                             [**2135-3-24**]  03:06 AM
                             [**2135-3-24**]  03:07 AM
                             [**2135-3-24**]  06:03 AM
                             [**2135-3-24**]  08:57 AM
   WBC
   7.3
   9.0
   9.3
   8.9
   Hct
   31
   32.4
   31.9
   34.2
   33.6
   Plt
   [**Telephone/Fax (3) 12044**]97
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   24
   24
   25
   25
   23
   25
   Glucose
   122
   137
   155
   146
   Other labs: PT / PTT / INR:18.2/35.5/1.6, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/67, Alk Phos / T Bili:707/1.4,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:139 IU/L, Ca++:6.7
   mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.
   resp failure: Chest CT shows what is likely chronic L lung collapse
   with hyperinflation of remaining L apex.  Discussed case with IP
   unfortunately, drainage of the fluid is extremely unlikely to help
   reinflate L lung.  Have asked pt
s son to obtain recent chest CT from
   OSH to compare
 L lung inflated on late [**Month (only) **] chest CT here at [**Hospital1 5**].
   Will keep on [**5-11**] today and see if low level of positive pressure for an
   extended period will help inflate L lung without cause pneumothorax of
   hyperexpanded L apex.  Will add back vanco given new RUL infiltrate.
   hypotension: BPs currently stable
 not on pressots
   GI bleed. Some scant bloody ostomy output
 trend Hcts, cont PPI
   Pancolitis: cont po vanco, flagyl
   UTI: cont cefepime x total 14 course  ([**6-20**])
   Afib: rate currently controlled
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-24**] 12:48 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   20 Gauge - [**2135-3-23**] 12:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2135-03-25 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2135-3-24**]:
   Vanco trough was 16, restarted on 750 [**Hospital1 **]
   Started on Digoxin .125 daily
   Likely will repeat CT chest today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2135-3-24**] 04:55 PM
   Cefipime - [**2135-3-24**] 06:00 PM
   Vancomycin - [**2135-3-24**] 10:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-24**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-25**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.4
C (95.8
   HR: 86 (86 - 100) bpm
   BP: 92/44(61) {84/39(55) - 136/73(98)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,730 mL
                                                                    573 mL
   PO:
             TF:
                                                                  1,300 mL
                                                                    232 mL
   IVF:
                                                                    810 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                    202 mL
   Urine:
                                                                    775 mL
                                                                    202 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,955 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (220 - 481) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 53
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.28/50/68/23/-3
   Ve: 7.2 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Gen: trach in place, sleeping, not interactive with exam
   Cards: rrr no m/r/g
   Resp: CTAB
   Abd: soft, nt/nd +BS, ostomy bag w/ brown/maroon stool
   Ext: WWP
   Labs / Radiology
   172 K/uL
   9.7 g/dL
   133 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   32 mg/dL
   112 mEq/L
   135 mEq/L
   32.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2135-3-23**]  04:46 AM
                             [**2135-3-23**]  09:14 AM
                             [**2135-3-23**]  09:26 AM
                             [**2135-3-24**]  03:06 AM
                             [**2135-3-24**]  03:07 AM
                             [**2135-3-24**]  06:03 AM
                             [**2135-3-24**]  08:57 AM
                             [**2135-3-24**]  03:17 PM
                             [**2135-3-24**]  05:31 PM
                             [**2135-3-25**]  02:41 AM
   WBC
   9.0
   9.3
   8.9
   8.6
   Hct
   31.9
   34.2
   33.6
   34.7
   32.3
   Plt
   193
   208
   197
   172
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   25
   23
   25
   24
   Glucose
   137
   155
   146
   133
   Other labs: PT / PTT / INR:18.6/37.8/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/64, Alk Phos / T Bili:902/0.8,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:160 IU/L, Ca++:6.8
   mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #)  Respiratory Distress:  On [**3-23**] had a CT scan showing almost
   complete collapse of the L lower lobe/lingula, no PTX.  IP was
   [**Name (NI) 161**], but if this has been present for awhile there is less of a
   chance that drainage would be successful.
   - obtain outside CT scan to determine age of collapse if possible
   - continue ventilator support as needed.
   - Wean down vent settings as tolerated, unlikely for trach mask trial
   today
   - Consider repeat CT scan of chest
   #) Hypotension/tachycardia--at baseline, pt's HR is in high 90s and BP
   in SBP in 90s. She is fluid responsive.  Etiologies may include
   hypovolemia.  New drainage from abdominal wound could indicate fluid
   collection or fistula.
   - Continue to monitor BP
   - Support with fluids as needed
   - Follow up wound culture and if needed speak with surgery about need
   for imaging
   - Continuing Digoxin
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago.
   - On PO vanc and IV flagyl for treatment of presumed C. diff colitis;
   plan for 14 day course after cefepime; abx to end on [**4-13**].
   - F/u stool culture, O&P
   - F/u tissue biopsy/pathology results.
   - Protonix 40mg IV BID
   - Follow Hct QD; no signs of active bleeding and Hct has remained
   stable
   - If rebleeds, would consider vitamin K injection as INR slightly
   elevated at 1.6.
   - Surgery has signed off, left recs re: area of possible dehiscence
   around surgical scar --> dry dressing QD.
   - Will call path to discuss results and implications for antibiotic
   length of treatment
   .
   #)  Abdominal Incision Breakdown:  small amount of drainage this
   morning.  Pt. has been afebrile.  Concern for fistula v. fluid
   collection, possible that ostomy had drained slightly into that area as
   well.
   - culture sent
 follow up
   - monitor for temp.
   .
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for 14 day course given complicated UTI. [**3-17**] is
   Day 1 of cefepime. Today is Day 7 of 14. (abx to end [**3-30**])
   .
   #) Afib w/ [**Month/Year (2) 1978**]. Pt with new AF w/[**Month/Year (2) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline. Loaded with digoxin over weekend but it was not continued.
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - Lopressor dose decreased to 6.25 [**Hospital1 **]
   .
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures. Vancomycin
   level today elevated at 23.- Improved, s/p 6 days of IV vanc which was
   d/c'ed yesterday. Blood cultures since [**3-18**] have been negative. On
   cefepime for pseudamonas UTI.   IV Vanco was DC
d yesterday
   .
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection.  Doing well on trach mask trial.
   - Continue trach-mask trial today
   #) Concern for Depression--psych consulted and found patient difficult
   to assess given baseline poor mental status.
   - Will call psych when family present or pt. becomes more interactive
   to evaluate further
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending.  No signs of active cholecystitis
   #) Hypothyroidism--TSH 0.35
 Synthroid dose was decreased after
   episode of A. Fib
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix held in setting of recent hypotension
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] consider re-starting home dose if
   BP permits.
   #) FEN
   - Tube feeds; per nutrition, replete with at goal of 65ml/hr; 150ml
   flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
 replete phos
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   #) Access: Picc, arterial line
   - D/c Arterial line prior to discharge
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo: accepted to [**Hospital1 1298**]. Touch base re: case management whether bed
   is free.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-24**] 03:56 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-03-25 11:43:00 Physician Attending Progress Note
Chief Complaint: GI Bleeed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Not interactive this AM
   24 Hour Events:
   Remained on 0.7 FIO2 overnight
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-24**] 06:00 PM
   Metronidazole - [**2135-3-25**] 08:04 AM
   Vancomycin - [**2135-3-25**] 09:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-24**] 08:19 PM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-25**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.6
   HR: 96 (86 - 98) bpm
   BP: 93/46(65) {84/39(55) - 136/73(98)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,730 mL
                                                                  1,261 mL
   PO:
             TF:
                                                                  1,300 mL
                                                                    392 mL
   IVF:
                                                                    810 mL
                                                                    714 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                    302 mL
   Urine:
                                                                    775 mL
                                                                    302 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,955 mL
                                                                    959 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (220 - 481) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 53
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.28/50/68/23/-3
   Ve: 7.2 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on left)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   172 K/uL
   133 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   32 mg/dL
   112 mEq/L
   135 mEq/L
   32.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2135-3-23**]  04:46 AM
                             [**2135-3-23**]  09:14 AM
                             [**2135-3-23**]  09:26 AM
                             [**2135-3-24**]  03:06 AM
                             [**2135-3-24**]  03:07 AM
                             [**2135-3-24**]  06:03 AM
                             [**2135-3-24**]  08:57 AM
                             [**2135-3-24**]  03:17 PM
                             [**2135-3-24**]  05:31 PM
                             [**2135-3-25**]  02:41 AM
   WBC
   9.0
   9.3
   8.9
   8.6
   Hct
   31.9
   34.2
   33.6
   34.7
   32.3
   Plt
   193
   208
   197
   172
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   25
   23
   25
   24
   Glucose
   137
   155
   146
   133
   Other labs: PT / PTT / INR:18.6/37.8/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/64, Alk Phos / T Bili:902/0.8,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:160 IU/L, Ca++:6.8
   mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.
   resp failure: Collapse of L lung except for L apex.  Perhaps some
   improvement on CXR today.  Will ask thoracics to consult re: benefit of
   drainage of L-sided effusion.  Wean FIO2 as tolerated
   hypotension: off pressors
   GI bleed. Resolved.  PPI
   Pancolitis: cont po vanco, flagyl
   UTI: cont cefepime x total 14 course  ([**8-20**])
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-24**] 03:56 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2135-03-26 04:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Thoracics consulted to give input on options for evaluating pleural
   fluid collections. No plans to tap effusions at this time.  Pt
   otherwise stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-25**] 07:29 PM
   Vancomycin - [**2135-3-25**] 11:25 PM
   Metronidazole - [**2135-3-26**] 12:32 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-25**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-26**] 04:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 94 (86 - 100) bpm
   BP: 101/44(64) {85/39(56) - 103/49(70)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,529 mL
                                                                    492 mL
   PO:
             TF:
                                                                  1,099 mL
                                                                    197 mL
   IVF:
                                                                  1,100 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                    862 mL
                                                                     83 mL
   Urine:
                                                                    712 mL
                                                                     83 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (154 - 451) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.29/49/61/22/-3
   Ve: 7.9 L/min
   PaO2 / FiO2: 102
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   9.9 g/dL
   132 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.5 mEq/L
   36 mg/dL
   111 mEq/L
   135 mEq/L
   33.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2135-3-24**]  03:07 AM
                             [**2135-3-24**]  06:03 AM
                             [**2135-3-24**]  08:57 AM
                             [**2135-3-24**]  03:17 PM
                             [**2135-3-24**]  05:31 PM
                             [**2135-3-25**]  02:41 AM
                             [**2135-3-25**]  12:23 PM
                             [**2135-3-25**]  03:03 PM
                             [**2135-3-25**]  03:50 PM
                             [**2135-3-26**]  02:53 AM
   WBC
   8.6
   Hct
   34.7
   32.3
   33.2
   33.9
   Plt
   172
   181
   Cr
   0.4
   0.4
   TCO2
   25
   23
   25
   24
   24
   25
   Glucose
   133
   132
   Other labs: PT / PTT / INR:18.6/36.4/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/64, Alk Phos / T Bili:902/0.8,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:160 IU/L, Ca++:7.0
   mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #)  Respiratory Distress:  On [**3-23**] had a CT scan showing almost
   complete collapse of the L lower lobe/lingula, no PTX.  IP was
   [**Name (NI) 161**], but if this has been present for awhile there is less of a
   chance that drainage would be successful.  Awaiting OSH CT scan which
   was requested on [**3-24**]
   - OSH CT scan to determine age of collapse if possible
   - Continue ventilator support as needed.
   - Wean down vent settings as tolerated, unlikely for trach mask trial
   today
   - Consider repeat CT scan of chest
   - Consult thoracics today to assist with further management/evaluation
   #) Hypotension/tachycardia--at baseline, pt's HR is in high 90s and SBP
   in 90s. She is fluid responsive.  Etiologies may include hypovolemia.
   New drainage from abdominal wound could indicate fluid collection or
   fistula.
   - Continue to monitor BP
   - Support with fluids as needed
   - Follow up wound culture and if indicated speak with surgery about
   need for imaging
   - Continuing Digoxin
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago.   Pathology reviewed and could not
   distinguish pseudomembrane v. other colitis.
   - On PO vanc and IV flagyl for treatment of presumed C. diff colitis;
   plan for 14 day course after cefepime; abx to end on [**4-13**].
   - F/u stool culture, O&P
   - F/u tissue biopsy/pathology results.
   - Protonix 40mg IV BID
   - Follow Hct QD; no signs of active bleeding and Hct has remained
   stable
   - If rebleeds, would consider vitamin K injection as INR slightly
   elevated at 1.6.
   - Surgery has signed off, left recs re: area of possible dehiscence
   around surgical scar --> dry dressing QD.
   - Will call path to discuss results and implications for antibiotic
   length of treatment
   .
   #)  Abdominal Incision Breakdown:  small amount of drainage this
   morning, but stable.  Pt. has been afebrile.  Concern for fistula v.
   fluid collection, possible that ostomy had drained slightly into that
   area as well.
   - culture sent
 follow up
   - monitor for temp.
   .
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for 14 day course given complicated UTI. [**3-17**] is
   Day 1 of cefepime. Today is Day 7 of 14. (abx to end [**3-30**])
   .
   #) Afib w/ [**Month/Year (2) 1978**]. Pt with new AF w/[**Month/Year (2) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline. Loaded with digoxin over weekend but it was not continued.
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - Lopressor dose decreased to 6.25 [**Hospital1 **]
   .
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures. Vancomycin
   level today elevated at 23.- Improved, s/p 6 days of IV vanc which was
   d/c'ed yesterday. Blood cultures since [**3-18**] have been negative. On
   cefepime for pseudamonas UTI.   IV Vanco was DC
d yesterday
   .
   #) Ventilator dependence--stable on [**5-11**] PS. Recent pneumonia but CXR
   today without signs of infection.  Doing well on trach mask trial.
   - Continue trach-mask trial today
   #) Concern for Depression--psych consulted and found patient difficult
   to assess given baseline poor mental status.
   - Will call psych when family present or pt. becomes more interactive
   to evaluate further
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending.  No signs of active cholecystitis
   #) Hypothyroidism--TSH 0.35
 Synthroid dose was decreased after
   episode of A. Fib
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix held in setting of recent
   hypotension.   Now back on lopressor.
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] continue beta blocker and watch BP
   #) FEN
   - Tube feeds; per nutrition, replete with at goal of 65ml/hr; 150ml
   flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
 replete phos
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   #) Access: Picc, arterial line
   - D/c Arterial line prior to discharge
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo: will remain in ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-03-26 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - thoracics saw pt, did not want to intervene on pleural effusions.
   Recommended diuresis as tolerated for pleural effusions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-25**] 07:29 PM
   Metronidazole - [**2135-3-26**] 12:32 AM
   Vancomycin - [**2135-3-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-25**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-26**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.2
C (95.3
   HR: 96 (89 - 100) bpm
   BP: 95/45(64) {85/39(56) - 103/49(70)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,529 mL
                                                                    731 mL
   PO:
             TF:
                                                                  1,098 mL
                                                                    292 mL
   IVF:
                                                                  1,100 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    862 mL
                                                                    163 mL
   Urine:
                                                                    712 mL
                                                                    163 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                    568 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (154 - 451) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.29/49/61/22/-3
   Ve: 7.6 L/min
   PaO2 / FiO2: 102
   Physical Examination
   General: resting comfortably
   CV: Distant heart sounds. No m/r/g
   Lungs: decreased breath sounds on L compared to right
   Abdomen: soft, nontender, nondistended, + BS. Surgical wound clean and
   dry. Ostomy draining brown and orangish-red stool, but no frankly
   bloody.
   Extremities: 2+ pitting edema
   Labs / Radiology
   181 K/uL
   9.9 g/dL
   132 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.5 mEq/L
   36 mg/dL
   111 mEq/L
   135 mEq/L
   33.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2135-3-24**]  03:07 AM
                             [**2135-3-24**]  06:03 AM
                             [**2135-3-24**]  08:57 AM
                             [**2135-3-24**]  03:17 PM
                             [**2135-3-24**]  05:31 PM
                             [**2135-3-25**]  02:41 AM
                             [**2135-3-25**]  12:23 PM
                             [**2135-3-25**]  03:03 PM
                             [**2135-3-25**]  03:50 PM
                             [**2135-3-26**]  02:53 AM
   WBC
   8.6
   9.9
   Hct
   34.7
   32.3
   33.2
   33.9
   Plt
   172
   181
   Cr
   0.4
   0.4
   TCO2
   25
   23
   25
   24
   24
   25
   Glucose
   133
   132
   Other labs: PT / PTT / INR:18.6/36.4/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/64, Alk Phos / T Bili:902/0.8,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:160 IU/L, Ca++:7.0
   mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Micro
   Wound culture--(prelim)--[**Female First Name (un) 474**] albicans, sparse growth
   Stool cultures--neg for campylobacteri, salmonella, shigella, O&P
   Respiratory cultures ([**3-23**])--sparse commensal flora
   Blood cultures--[**3-17**], [**3-18**], [**3-19**]--negative (final). One bottle from
   [**3-17**] with coagulase negative staphaureus
   Urine culture--pseudamonas
   Path
   Ascending colon--colonic mucosa with focal active colitis.
   Transverse colon and descending colon--colonic mucosa with
   active colitis and ulceration.
   --Slide B shows has a small fragment of colonic mucosa with active
   inflammation and ulceration with a fibrinous exudate.  This may
   represent a pseudomembrane, ischemic injury, or drug effect.  The case
   has been reviewed with Dr. [**Last Name (STitle) **] [**Last Name (NamePattern4) 12096**], who concurs.
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #)  Respiratory Distress:  On [**3-23**] had a CT scan showing almost
   complete collapse of the L lower lobe/lingula, no PTX.  IP was
   [**Name (NI) 161**], but if this has been present for awhile there is less of a
   chance that drainage would be successful.  Awaiting OSH CT scan which
   was requested on [**3-24**]. Thoracics consulted yesterday, no intervention
   planned at this time.
   - OSH CT scan to determine age of collapse if possible
   - Continue ventilator support as needed.
   - Wean down vent settings as tolerated, unlikely for trach mask trial
   today
   - Consulted thoracics team who recommended diuresis as BP allows; will
   hold off on diuresis given baseline tachycardia and low BP.
   #) Hypotension/tachycardia--at baseline, pt's HR is in high 90s and SBP
   in 90s. She is fluid responsive.  Etiologies may include hypovolemia.
   New drainage from abdominal wound could indicate fluid collection or
   fistula.
   - Continue to monitor BP
   - Support with fluids as needed
   - Follow up wound culture and if indicated speak with surgery about
   need for imaging
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago.   Pathology reviewed and could not
   distinguish pseudomembrane v. other colitis.
   - On PO vanc and IV flagyl for treatment of presumed C. diff colitis;
   plan for 14 day course after cefepime; abx to end on [**4-13**].
   - Stool cx and C.Diff negative to date.
   - Protonix 40mg IV BID
   - Follow Hct QD; no signs of active bleeding and Hct has remained
   stable
   - Guiac stool; If rebleeds, would consider vitamin K injection as INR
   slightly elevated at 1.6.
   - Surgery has signed off, left recs re: area of possible dehiscence
   around surgical scar --> dry dressing QD.
   #)  Abdominal Incision Breakdown:  small amount of drainage this
   morning, but stable.  Pt. has been afebrile.  Concern for fistula v.
   fluid collection, possible that ostomy had drained slightly into that
   area as well.
   - culture sent
 follow up
   - monitor for temp.
   #) Afib w/ [**Month/Day (4) 1978**]. Pt with new AF w/[**Month/Day (4) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline. Loaded with digoxin over weekend but it was not continued.
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - Continue digoxin
   - Lopressor dose decreased to 6.25 [**Hospital1 **]
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for 14 day course given complicated UTI. [**3-17**] is
   Day 1 of cefepime. Today is Day 10 of 14. (abx to end [**3-30**])
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures. Improved,
   s/p 6 days of IV vanc. Blood cultures since [**3-18**] have been negative. On
   cefepime for pseudamonas UTI.
   - Re-started vancomycin on [**3-24**] given low vanc trough of 16.
   #) Concern for Depression--psych consulted and found patient difficult
   to assess given baseline poor mental status.
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending.  No signs of active cholecystitis
   #) Hypothyroidism--TSH 0.35
 Synthroid dose was decreased after
   episode of A. Fib
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix held in setting of recent hypotension.
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] continue beta blocker and watch BP
   #) FEN
   - Tube feeds; per nutrition, replete with at goal of 65ml/hr; 150ml
   flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
 replete phos
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   #) Access: Picc, arterial line
   - D/c Arterial line prior to discharge
   #) Communication: patient and family.
   #) Code: FULL
   #) Dispo: d/c to [**Hospital 1298**] rehab if continues to be medically stable and
   bed availabiltiy

2135-03-26 11:40:00 Physician Attending Progress Note
Chief Complaint: GI Bleed/Blood Loss Anemia, Acute/Chronic respiratory
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on FIO2 of 0.6
   Denies pain but did answer other questions
   24 Hour Events:
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-25**] 07:29 PM
   Vancomycin - [**2135-3-26**] 04:00 AM
   Metronidazole - [**2135-3-26**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-25**] 08:36 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-26**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.3
   HR: 97 (89 - 100) bpm
   BP: 93/43(61) {83/39(56) - 102/49(68)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,529 mL
                                                                  1,373 mL
   PO:
             TF:
                                                                  1,098 mL
                                                                    580 mL
   IVF:
                                                                  1,100 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    862 mL
                                                                    313 mL
   Urine:
                                                                    712 mL
                                                                    213 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                  1,060 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 348 (154 - 377) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.29/49/61/22/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 102
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on L but loader than yesterday)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   181 K/uL
   132 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.5 mEq/L
   36 mg/dL
   111 mEq/L
   135 mEq/L
   33.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2135-3-24**]  03:07 AM
                             [**2135-3-24**]  06:03 AM
                             [**2135-3-24**]  08:57 AM
                             [**2135-3-24**]  03:17 PM
                             [**2135-3-24**]  05:31 PM
                             [**2135-3-25**]  02:41 AM
                             [**2135-3-25**]  12:23 PM
                             [**2135-3-25**]  03:03 PM
                             [**2135-3-25**]  03:50 PM
                             [**2135-3-26**]  02:53 AM
   WBC
   8.6
   9.9
   Hct
   34.7
   32.3
   33.2
   33.9
   Plt
   172
   181
   Cr
   0.4
   0.4
   TCO2
   25
   23
   25
   24
   24
   25
   Glucose
   133
   132
   Other labs: PT / PTT / INR:18.6/36.4/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:29/64, Alk Phos / T Bili:902/0.8,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:160 IU/L, Ca++:7.0
   mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR: RUL infiltate, decreased L lung marking
   Assessment and Plan
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.
   resp failure: Collapse of L lung except for L apex.  Appreciate
   thoracics input - no drainage of fluid at this time.  Cont to wean FIO2
   as tolerated
   hypotension: off pressors but continues to have intermittently low BP.
   cont prn fluid bolus.
   GI bleed. Cont PPI
   Pancolitis: cont po vanco, flagyl
   UTI: cont cefepime x total 14 course  ([**10-20**])
   Afib: Cont dig
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-26**] 03:02 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2135-03-27 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Transfused albumin with plan for lasix but held off on lasix because
   BPs low (SBPs 80s/90s).
   -vanc level high, held AM vanc, changed dose to 500 q12, resuming with
   PM dose, re-check trough in morning
   -ABG in afternoon 7.36/33/53, FiO2 increased from 60 to 70.
   -UOP borderline throughout afternoon (25cc/hr), and through the evening
   -11:30pm: had probably mucous plug, was suctioned and bag ventilated.
   BP dropped acutely to high 60s, low 70s in context of bag ventilation.
   Pt was not responding well to name. Bolused 500cc NS, with almost
   immediate improvement in pressures to SBP 80s/90s. Hung pressors but
   did not have to start them. Gave another 250 cc's fluid for BP support
   of UOP. - SBPs in low 80s most of the rest of the night.
   - She was changed from PSV to CMV assist and increased PEEP in context
   of worsening respiratory status from mucous plug. CXR showed no
   significant change. Weaned back to PSV/CPAP this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-25**] 07:29 PM
   Vancomycin - [**2135-3-26**] 10:10 PM
   Metronidazole - [**2135-3-27**] 12:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-26**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-27**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 100 (89 - 108) bpm
   BP: 96/50(66) {78/39(54) - 118/60(80)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,192 mL
                                                                  1,190 mL
   PO:
             TF:
                                                                  1,402 mL
                                                                    372 mL
   IVF:
                                                                    700 mL
                                                                    667 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    863 mL
                                                                    140 mL
   Urine:
                                                                    563 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,329 mL
                                                                  1,050 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 350 (319 - 375) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI: 122
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.32/42/112/22/-4
   Ve: 5.9 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General: awakens to name but unresponsive, closes eyes, not following
   commands
   CV: distant heart sounds, no m/r/g, RRR
   Lungs: diminished breath sounds on L
   Abdomen: s/nt/nd. Abdomen soft, nontender, nondistended. Wound intact
   with dry dressing. Ostomy draining blood-tinged stool.
   Extremities: 3+ pitting edema
   Labs / Radiology
   199 K/uL
   9.3 g/dL
   132 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   41 mg/dL
   110 mEq/L
   135 mEq/L
   31.4 %
   8.9 K/uL
        [image002.jpg]
   Albumin 1.9
                             [**2135-3-25**]  02:41 AM
                             [**2135-3-25**]  12:23 PM
                             [**2135-3-25**]  03:03 PM
                             [**2135-3-25**]  03:50 PM
                             [**2135-3-26**]  02:53 AM
                             [**2135-3-26**]  04:57 PM
                             [**2135-3-26**]  10:13 PM
                             [**2135-3-27**]  12:29 AM
                             [**2135-3-27**]  02:05 AM
                             [**2135-3-27**]  02:21 AM
   WBC
   8.6
   9.9
   8.9
   Hct
   32.3
   33.2
   33.9
   31.4
   Plt
   172
   181
   199
   Cr
   0.4
   0.4
   0.5
   TCO2
   24
   25
   24
   25
   24
   23
   Glucose
   133
   132
   132
   Other labs: PT / PTT / INR:18.5/37.6/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:36/63, Alk Phos / T Bili:963/1.0,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.3 mmol/L, Albumin:1.9 g/dL, LDH:154 IU/L, Ca++:7.1
   mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #) Hypotension/tachycardia--at baseline, pt's HR is in high 90s and SBP
   in 90s. She is fluid responsive although low albumin makes it difficult
   to mobilize fluid intravascularly. S/p 750cc of fluid overnight. Low
   SBPs overnight initially may have been due to temporary bag ventilating
   which may have caused some breath-stacking/auto-PEEP.
   - Continue to monitor BP
   - Support with fluids as needed, although since she is grossly positive
   since admission may consider another albumin infusion today (most
   recent albumin 1.9)
   - Monitor BP and UOP throughout the day: if continues to be hypotensive
   with low urine output, may need to consider starting phenylephrine if
   refractory to fluids.
   #)  Respiratory Distress:  Known LLL collapse on CT with bilateral
   pleural effusions, unable to be drained per IR and thoracics. FIO2
   requirement increased from 60 --> 70% during PM yesterday and she was
   put on CMV/AC overnight in setting of hypotension. Suspect that
   worsening respiratory status may be owing to fluid administration and
   hypoalbuminemia, which may be worsening bilateral pleural effusions.
   Will also consider other reversible causes, such as infection, given
   opacities on CXR but respiratory culture unremarkable which is
   reassuring.
   - Weaned back to PSV today; will unlikely have trache/mask trials
   - Consider repeat albumin infusion as above.
   - [**Month (only) 8**] consider diuresis per thoracics recs but holding off for now
   given very low BP
   - Continuing to treat with IV vancomycin, dose decreased to 500mg IV
   Q12h per pharmacy recommendations. Also getting cefepime
   - F/u AM vancomycin trough
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago.   Pathology reviewed and could not
   distinguish pseudomembrane v. other colitis.
   - On PO vanc and IV flagyl for treatment of presumed C. diff colitis;
   plan for 14 day course after cefepime; abx to end on [**4-13**].
   - Stool cx and C.Diff negative to date.
   - Protonix 40mg IV BID
   - Follow Hct QD; no signs of active bleeding and Hct has remained
   stable
   - Given slightly elevated INR of 1.7 and guiac + ostomy with red tinge,
   consider vitamin K 1mg x1
   - Surgery has signed off, left recs re: area of possible dehiscence
   around surgical scar --> dry dressing QD.
   #)  UTI:  Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin
   - continue Cefepime for 14 day course given complicated UTI. [**3-17**] is
   Day 1 of cefepime. Today is Day 11 of 14. (abx to end [**3-30**])
   #)  Abdominal Incision Breakdown:  small amount of drainage this
   morning, but stable.  Pt. has been afebrile.  Concern for fistula v.
   fluid collection, possible that ostomy had drained slightly into that
   area as well.
   - culture sent
 follow up
   - monitor for temp.
   #) Afib w/ [**Month/Year (2) 1978**]. Pt with new AF w/[**Month/Year (2) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline. Loaded with digoxin over weekend but it was not continued.
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - Continue digoxin
   - Lopressor d/c'ed given hypotension
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures. Improved,
   s/p 6 days of IV vanc. Blood cultures since [**3-18**] have been negative. On
   cefepime for pseudamonas UTI. Continuing on IV vancomycin and cefepime.
   #) Concern for Depression--psych consulted and found patient difficult
   to assess given baseline poor mental status.
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Elevated alk phos--chronic, history of hepatic cysts,
   cholelithiasis. Down-trending.  No signs of active cholecystitis
   #) Hypothyroidism--TSH 0.35
 Synthroid dose was decreased after
   episode of A. Fib
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix held in setting of recent hypotension.
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] continue beta blocker and watch BP
   #) FEN
   - Tube feeds; per nutrition, replete with at goal of 65ml/hr; 150ml
   flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
 replete phos
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   #) Access: Picc, arterial line
   #) Communication: family meeting today
   #) Code: FULL
   #) Dispo: ICU for now

2135-03-27 12:45:00 Physician Attending Progress Note
Chief Complaint: GI bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Not interactive this AM
   24 Hour Events:
   Overnight, had acute desat requiring short period of bagging
   SBPs in 70s this AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-25**] 07:29 PM
   Metronidazole - [**2135-3-27**] 12:15 AM
   Vancomycin - [**2135-3-27**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-26**] 08:02 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-27**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 95 (89 - 108) bpm
   BP: 95/42(60) {78/39(54) - 118/60(80)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,192 mL
                                                                  1,748 mL
   PO:
             TF:
                                                                  1,402 mL
                                                                    640 mL
   IVF:
                                                                    700 mL
                                                                    909 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    863 mL
                                                                    185 mL
   Urine:
                                                                    563 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,329 mL
                                                                  1,563 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 354 (319 - 375) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 122
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.27/50/74/22/-4
   Ve: 6.3 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on L, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, blood-tinged ostomy output
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
                                  9.3 g/dL
   199 K/uL
   132 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   41 mg/dL
   110 mEq/L
   135 mEq/L
   31.4 %
   8.9 K/uL
                             [**2135-3-25**]  12:23 PM
                             [**2135-3-25**]  03:03 PM
                             [**2135-3-25**]  03:50 PM
                             [**2135-3-26**]  02:53 AM
                             [**2135-3-26**]  04:57 PM
                             [**2135-3-26**]  10:13 PM
                             [**2135-3-27**]  12:29 AM
                             [**2135-3-27**]  02:05 AM
                             [**2135-3-27**]  02:21 AM
                             [**2135-3-27**]  06:42 AM
   WBC
   9.9
   8.9
   Hct
   33.2
   33.9
   31.4
   Plt
   181
   199
   Cr
   0.4
   0.5
   TCO2
   24
   25
   24
   25
   24
   23
   24
   Glucose
   132
   132
   Other labs: PT / PTT / INR:18.5/37.6/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:36/63, Alk Phos / T Bili:963/1.0,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.3 mmol/L, Albumin:1.9 g/dL, LDH:154 IU/L, Ca++:7.1
   mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.
   resp failure: Ongoing trend toward worsening hypoxemia with sigificant
   contribution from L lung collapse
   hypotension: additional saline bolus now and will start neo if no
   response.  Reculture.  Cr trending upwards as well --> cont to trend
   GI bleed. Cont PPI.  More blood-tinged output. Trend Hcts
   Pancolitis: cont po vanco, flagyl
   UTI: cont cefepime x total 14 course  ([**11-20**])
   Afib: Cont dig
   Overall, it is becoming increasingly clear that Mrs.[**Doctor Last Name 12118**]
   persistent medical problems will not allow her to transition to a
   long-term care setting.  Will speak with family to readdress goals of
   care.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-27**] 06:26 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum: Met with son and daughter of Mrs. [**Known lastname 7340**] to update them on
   recent events.  They have also been participating in Families on
   Rounds.  I discussed with them that I am pessimistic at this point of
   Mrs. [**Known lastname 7340**]
s ability to improve beyond ICU level of care given the
   ongoing hypoxemia and hemodynamic instability.  I brought up with them
   that transition to less aggressive care may be appropriate at this
   time.   They are planning to discuss amongst themselves and with their
   other brother.  She remains full code.  Pt is critically ill.  Time
   spent 20 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2135-3-27**] 13:44 ------

2135-03-28 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BPs low without responding to 500cc fluid boluses, put on
   phenylephrine at 0.5, highest at 0.82, running at 0.7 at time of exam
   this morning, and now stopped.
   - High residuals this AM ~250ml
   - UOP continues to remain borderline-low
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-25**] 07:29 PM
   Metronidazole - [**2135-3-27**] 11:34 PM
   Vancomycin - [**2135-3-28**] 04:34 AM
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-27**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-3-28**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.3
   HR: 88 (87 - 100) bpm
   BP: 98/47(64) {74/37(51) - 115/54(76)} mmHg
   RR: 20 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,214 mL
                                                                    750 mL
   PO:
             TF:
                                                                  1,496 mL
                                                                    449 mL
   IVF:
                                                                  2,368 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    250 mL
   Urine:
                                                                    530 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,684 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 417 (336 - 417) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 39
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.31/44/64/22/-4
   Ve: 8 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Gen: awake, makes eye contact, not responding to questions but
   sometimes to commands
   CV: distant heart sounds, RRR, no m/r/g
   Lungs: Decreased breath sounds at left lung base, some improvement in L
   lung air movement
   Abdomen: soft, nontender, nondistended. Ostomy draining green, bilious
   stool. No frank blood. Areas of wound dehiscence dry without swelling,
   erythema, or drainage.
   Extremities: weeping 2+ pitting edema to thighs.
   Labs / Radiology
   215 K/uL
   9.7 g/dL
   128 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.7 mEq/L
   44 mg/dL
   111 mEq/L
   135 mEq/L
   32.5 %
   10.5 K/uL
        [image002.jpg]
   Digoxin 1.0
   Vanco level 28.3
   ALT 38 / AST 75 / Alk phos 1010 / Tbili 0.9
                             [**2135-3-26**]  10:13 PM
                             [**2135-3-27**]  12:29 AM
                             [**2135-3-27**]  02:05 AM
                             [**2135-3-27**]  02:21 AM
                             [**2135-3-27**]  06:42 AM
                             [**2135-3-27**]  05:22 PM
                             [**2135-3-27**]  06:20 PM
                             [**2135-3-27**]  09:51 PM
                             [**2135-3-28**]  03:32 AM
                             [**2135-3-28**]  03:54 AM
   WBC
   8.9
   10.5
   Hct
   31.4
   32.2
   32.5
   Plt
   199
   215
   Cr
   0.5
   0.6
   0.5
   TCO2
   25
   24
   23
   24
   24
   23
   23
   Glucose
   132
   142
   128
   Other labs: PT / PTT / INR:19.0/36.6/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:38/75, Alk Phos / T Bili:1010/0.9,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:233 IU/L, Ca++:7.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Micro:
   UA: hazy color, moderate leukocytes, > 50 WBC, few bacteria, many
   yeast, [**6-16**] granular casts, 0-2 hyaline casts
   Wound culture:
   GRAM STAIN (Final [**2135-3-24**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   WOUND CULTURE (Final [**2135-3-26**]):
      [**Female First Name (un) **] ALBICANS, PRESUMPTIVE IDENTIFICATION.    SPARSE GROWTH.
   [image004.jpg]
   Assessment and Plan
   84yF with complicated recent medical history of sigmoid diverituculitis
   s/p ex-lap and colostomy and complicated post-operative course of
   pulmonary abscesses, trach and PEG, who presents from rehab with bright
   red blood per ostomy and found to have colonic ulceration and erythema
   suggestive of infectious vs. ischemic colitis.
   #) Hypotension/tachycardia: now weaned off pressors and sustaining
   pressures at the moment. [**Name2 (NI) 9750**] total body overloaded (LOS 24L
   positive) but intravascularly dry, and thus fluid responsive but
   difficult to mobilize fluids intravascularly due to low albumin.
   - Support with fluids as needed, albumin
   - Continue phenylephrine, wean as tolerated
   - MAP goal >55, UOP > 35cc/hr
   - Continue to evaluate for potential septic causes for low BP, although
   lactate was 1.6 yesterday. Follow-up urine and blood culture data sent
   yesterday.
   - Consider echocardiogram to evaluate for systolic
   dysfunction/cardiogenic which may be contributing to low BP. Last echo
   [**2135-2-9**] showing EF of 55% with low LV size suggesting low pre-load.
   #)  Respiratory Distress: Now on CMV. Known LLL collapse on CT with
   bilateral pleural effusions, unable to be drained per IR and thoracics.
   Suspect that worsening respiratory status may be owing to fluid
   administration and hypoalbuminemia, which may be worsening bilateral
   pleural effusions. Will also consider other reversible causes, such as
   infection, given opacities on CXR but respiratory culture unremarkable
   which is reassuring. On CMV/AC this AM, which may explain improved air
   movement on L lung.
   - Attempt to wean back to pressure support and continue to work with
   respiratory therapy
   - Treated potential pneumonia with vanc/cefepime, vanc level 28 this
   AM.
   - Vancomycin d/c
ed on [**3-27**]; per pharmacy, once her vanc level becomes
   therapeutic, will start 750q24h
   - Check vanc trough tomorrow (currently 28).
   # Hypernatremia: Will aim to make free water replete, as this will not
   affect overall volume status or effusions.
   - free water flushes 30 q8h
   #) Renal failure: creatinine increased from 0.3 --> 0.5, with UA
   showing [**6-16**] granular casts. [**Month (only) 8**] be secondary to infection but given
   poor urine output over the weekend, continued borderline UOP, and
   hemodynamic instability may consider pre-renal failure/ischemic ATN.
   Electrolytes have been stable.
   - Continue support of blood pressure with fluids and pressors as above.
   - Trend lytes and creatinine [**Hospital1 **]
   #)  UTI: Urine culture growing pseudomonas, sensitive to cefepime,
   ceftazidime, meropenem, zosyn, amikacin. New UA suggestive of ongoing
   infection, with many yeasts.
   - continue Cefepime for 14 day course given complicated UTI. [**3-17**] is
   Day 1 of cefepime. Today is Day 11 of 14. (abx to end [**3-30**])
   - Follow-up urine culture before expanding anti-microbial coverage
   - Change foley given yeast
   #) Colitis/GIB: Likely c. diff colitis given history, colonoscopy, and
   CT abdomen findings. C. diff negative x3. Per rehab, was C. diff
   positive several weeks ago. Pathology reviewed and could not
   distinguish pseudomembrane v. other colitis.
   - On PO vanc and IV flagyl for treatment of presumed C. diff colitis;
   plan for 14 day course after cefepime; abx to end on [**4-13**].
   - Protonix 40mg IV BID
   - Follow Hct QD;  Hct has remained stable although continues to have
   some bloody output
   - Given slightly elevated INR of 1.7 and guiac + ostomy with red tinge,
   consider vitamin K 1mg x1
   - Continue to support nutrition as per nutrition recs. Currently not on
   goal rate of 65cc/hr. Nutrition recommended decreasing free water
   boluses to 30q8 (increased to 150q6 in setting of hypotension) to
   decrease volume; consider 75q6 given hypotension.
   #)  Abdominal Incision Breakdown: small amount of drainage this
   morning, but stable. Pt. has been afebrile. Concern for fistula v.
   fluid collection, possible that ostomy had drained slightly into that
   area as well. Wound culture showed sparse [**Female First Name (un) 474**]
   - Dry-dressing QD
   - consider topical anti-fungal, although may not be necessary since
   wound site looks good and only sparse growth.
   - Continue to monitor for signs of further dehiscence.
   #) Elevated alk phos: chronic, history of hepatic cysts,
   cholelithiasis.  No signs of active cholecystitis. Layering gall stones
   and granularity in gallbladder, but Tbili wnl which is reassuring.
   - Alk phos 1010
   - Continue daily abdominal exams and check for RUQ tenderness.
   - ggt or fractionate alk phos
   - SPEP/UPEP (given low anion gap
 concern for paraproteins)
   #) Afib w/ [**Female First Name (un) 1978**]: Pt with new AF w/[**Female First Name (un) 1978**], appears to have resolved after
   diltiazem (5 + 2.5) and digoxin loading. Digoxin level 0.9. HR now at
   baseline. Loaded with digoxin over weekend but it was not continued.
   Digoxin level 1.0
   - Decreased levothyroxine dose from 200mcg --> 175mcg QD
   - Out-patient TFTs
   - Continue digoxin, check levels Qweek.
   - Lopressor d/c'ed given hypotension
   #) Right arm cellulitis--improved since admission. MRSA positive. Has
   remained afebrile with no growth to date on blood cultures. Improved,
   s/p 6 days of IV vanc. Blood cultures since [**3-18**] have been negative. On
   cefepime for pseudamonas UTI and vancomycin for possible MRSA
   pneumonia. Continuing on IV cefepime and vancomycin.
   - F/u blood cultures
   #) Concern for Depression--psych consulted and found patient difficult
   to assess given baseline poor mental status.
   #) Sacral decubitus ulcer
2x stage 2 and 1 non-stageable, without
   surrounding erythema or signs of infection
   - Appreciate wound care recommendations
   #) Hypothyroidism--TSH 0.35
 Synthroid dose was decreased after
   episode of A. Fib
   - will continue to monitor
   - Out-patient TFTs.
   #) HTN-Home lopressor and lasix held in setting of recent hypotension.
   - Given recent a-fib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] continue beta blocker and watch BP
   #) FEN
   - Tube feeds; per nutrition, replete with at goal of 65ml/hr; 150ml
   flush q6h
   - Multivitamin via tube feeds with 220mg zinc sulfate, 500mg vitamin
   and 20,000 IU vitamin daily x 10days.
   - Replete electrolytes
 replete phos
   - On insulin sliding scale
   #) Prophylaxis
   - Pneumoboots for now
   #) Access: PICC, arterial line
   #) Communication: patient and family
   #) Code: FULL
   #) Dispo: Will stay in ICU

2135-03-28 11:20:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has come off of phenylephrine this AM
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2135-3-25**] 07:29 PM
   Vancomycin - [**2135-3-28**] 04:34 AM
   Metronidazole - [**2135-3-28**] 07:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-3-27**] 07:55 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-3-28**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 89 (87 - 98) bpm
   BP: 108/49(68) {87/41(63) - 121/58(80)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,214 mL
                                                                  1,360 mL
   PO:
             TF:
                                                                  1,496 mL
                                                                    714 mL
   IVF:
                                                                  2,368 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    620 mL
   Urine:
                                                                    530 mL
                                                                    390 mL
   NG:
   230 mL
   Stool:
   Drains:
   Balance:
                                                                  3,684 mL
                                                                    741 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 417 (336 - 417) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 39
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/44/64/22/-4
   Ve: 8.2 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   at L base)
   Abdominal: Soft, Non-tender, ostomy output normal appearing
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   215 K/uL
   128 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.7 mEq/L
   44 mg/dL
   111 mEq/L
   135 mEq/L
   32.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2135-3-26**]  10:13 PM
                             [**2135-3-27**]  12:29 AM
                             [**2135-3-27**]  02:05 AM
                             [**2135-3-27**]  02:21 AM
                             [**2135-3-27**]  06:42 AM
                             [**2135-3-27**]  05:22 PM
                             [**2135-3-27**]  06:20 PM
                             [**2135-3-27**]  09:51 PM
                             [**2135-3-28**]  03:32 AM
                             [**2135-3-28**]  03:54 AM
   WBC
   8.9
   10.5
   Hct
   31.4
   32.2
   32.5
   Plt
   199
   215
   Cr
   0.5
   0.6
   0.5
   TCO2
   25
   24
   23
   24
   24
   23
   23
   Glucose
   132
   142
   128
   Other labs: PT / PTT / INR:19.0/36.6/1.7, CK / CKMB /
   Troponin-T:16/2/0.08, ALT / AST:38/75, Alk Phos / T Bili:1010/0.9,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:3.0
   %, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:233 IU/L, Ca++:7.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 DEPRESSION
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
   84 year old woman with complicated medical history including sigmoid
   diverituculitis s/p ex-lap and colostomy and complicated post-operative
   course of pulmonary abscesses, pneumonia, trach and PEG, who presented
   from rehab with bright red blood per ostomy.  Continues to have
   multiple issues requiring high level of care that I do not anticipate
   can be reversed in the short to intermediate term.
   resp failure: Currently on A/C and getting volumes.
   hypotension: Off of pressors again as of this AM.  Cont vanc (by
   level)/cefepime.
   GI bleed. Hct stable.  Cont PPI
   Pancolitis: cont po vanco, flagyl
   UTI: cont cefepime x total 14 course  ([**12-20**])
   Afib: Cont dig
   Family present on rounds today.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-3-28**] 06:25 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-3-18**] 12:43 AM
   PICC Line - [**2135-3-21**] 10:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum: Mrs. [**Known lastname 7340**] had an acute episode early this afternoon of
   desaturation with tracheostomy cuff leak followed by hypotension and
   PEA arrest.  CPR was intitated and I was called to the bedside.  Pulse
   and pressure were briefly been regained.  Mrs. [**Known lastname 7340**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **], [**Name (NI) 3275**], was
   present at the bedside and we agreed that further aggressive
   interventions were not appropriate, including more CPR or chest tube
   for the possibility of a tension pneumothorax.  I actually had the
   opportunity approximately 1 hour prior to this event to speak at some
   length with all three of Mrs. [**Known lastname 7340**]
s children about her poor
   probability of recovering from the totality of her problems.
   Vasopressors were discontinued and the focus of care was changed to
   comfort measures.  Mrs. [**Known lastname 7340**] expired later in the afternoon with her
   family at the bedside.
   [Critically ill.  Time spent 45 minutes.]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2135-3-28**] 19:05 ------